2132-03-22 08:06:00 Physician Resident Progress Note
Chief Complaint: DOE
   24 Hour Events:
   - admitted to ICU
   - diuresed with 40 IV lasix
   - CTA/ CT torso ordered, but not obtained yet
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ASA
   Atorvastatin
   Tamsulosin
   Colace
   PPI
   ISS
   Tessalon perles
   Metoprolol 75 [**Hospital1 **]
   Calc
   Vit D
   Methylpred 125 Q12
   Bactrim
   Atrovent
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2132-3-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 71 (66 - 78) bpm
   BP: 134/115(119) {119/59(75) - 147/115(119)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             144 mL
   PO:
             120 mL
   TF:
   IVF:
   24 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,110 mL
   Urine:
   1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,966 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Gen: awake, alert
   HEENT: pupils 1mm bilaterally, reactive to light, oropharynx clear
   Neck: supple, no LAD, JVD 9cm
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: unlabored breathing, no retractions, able to speak easily,
   symmetric lung sounds with diffuse expiratory wheezes but no crackles
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   wiht 1+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology
   432 K/uL
   9.6 g/dL
   133 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.7 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   29.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2132-3-22**]  03:13 AM
   WBC
   16.2
   Hct
   29.9
   Plt
   432
   Cr
   1.3
   Glucose
   133
   Other labs: PT / PTT / INR:14.2/34.1/1.2, Differential-Neuts:91.8 %,
   Lymph:6.6 %, Mono:1.3 %, Eos:0.2 %, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr, transferred to the ICU for hypoxia.
   .
   #Hypoxic: Patient has had a subacute course of hypoxia with some
   worsening today with PoA2 62. The patient himself is asymptomatic.
   Wheezing on exam suggests bronchospasm although these have been present
   since admission. Alternatively, he may have cardiogenic wheezes in the
   setting of EF 20%, new lower ext edema and IVF given for pre-contrast.
   CXR is unchanged from the past several days and does not show notable
   pulmonary edema although this may be difficult to see given underlying
   infiltrates. He has now put out 450cc to lasix, but continues to have
   desaturations. Given the pt's prostate CA, the patient should be ruled
   out for PE. In addition, he has been immunosupressed on steroids so HAP
   may be possible.
   - less concern for PE, but still needs CT to look at lung parenchyma
   - if effusion on CT, would tap and send for cytology
   - repeat echo
   - check ABG's
   - continue O2 to maintain sat >93%
   - goal I/O neg one liter today
   - nebs PRN
   - cont steroids: methylprednisone 125mg IV q12
   - cont guiafenasin
   .
   #Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP".
   - cont methylprednisolone 125mg q12
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   - repeat chest CT
   - may need to consider lung biopsy
   .
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - await bone marrow biopsy results
   - appreciate hematology reccs.
   .
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -cont BB
   - hold ACEI for recent renal failure and contrast
   .
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc.
   - monitor volume status
   - cont bb
   - hold ACEI for recent renal failure and contrast
   - goal neg 1 liter
   .
   # ARF: resolved, Cr max 1.7 now down to 1.1
   - hold ACEi for contrast study
   .
   # h/o NSVT, SSS, s/p PM/ICD: continue metoprolol
   .
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin
   ICU Care
   Nutrition:  low salt, heart healthy diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-22**] 03:51 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-03-22 09:22:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with esosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable.  Treated with IV steroids.
   24 Hour Events:  ICU admission note reviewed.  Received Fluid and
   bicarb for CT scan and subesquently increased FI02 requirement no
   change per patient.  Did notice LE swelling which is new. 40iv lasix on
   floor 100cc output and transferred to ICU.
   2L urine output overnight.  Maybe feels a little better but still
   hypoxic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-3-22**] 08:47 AM
   Other medications:
   Ipratropium Bromide Neb 1 NEB IH Q6H
   Metoprolol Tartrate 75 mg PO BID
   Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing  MethylPREDNISolone
   Sodium Succ 125 mg IV Q 12H
   Aspirin 325 mg PO DAILY
   Pantoprazole 40 mg PO Q24H
   Atorvastatin 80 mg PO DAILY
   Senna 1 TAB PO BID:PRN  Order date: [**3-22**] @ 0313
   Benzonatate 100 mg PO TID
   Simethicone 40-80 mg PO QID:PRN abdominal distention/gas pain
   Calcium Carbonate 500 mg PO BID
   Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Cepacol (Menthol) 1 LOZ PO PRN
   Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Docusate Sodium 100 mg PO BID
   Guaifenesin-CODEINE Phosphate [**4-6**] mL PO Q6H:PRN
   Sulfameth/Trimethoprim DS 1 TAB PO DAILY
   Heparin 5000 UNIT SC TID
   Tamsulosin 0.4 mg PO HS  Order date: [**3-22**] @ 0313
   Insulin SC  (per Insulin Flowsheet)Sliding Scale
   Vitamin D 50,000 UNIT PO QFRIDAY
   Changes to medical and family history: See resident note
   non-contributory.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-22**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 70 (66 - 78) bpm
   BP: 133/63(76) {119/59(75) - 147/115(119)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             300 mL
   PO:
             270 mL
   TF:
   IVF:
   30 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,310 mL
   Urine:
   1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -2,010 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Gen: awake, alert
   HEENT: pupils 1mm bilaterally, reactive to light, oropharynx clear,
   toung very dark.
   Neck: supple, no LAD, JVD 9cm  +HJR
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: unlabored breathing, no retractions, able to speak easily,
   symmetric bil rales [**1-1**] way up bilaterally
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   wiht 1+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology
   9.6 g/dL
   432 K/uL
   133 mg/dL
   1.3 mg/dL
   30 mEq/L
   4.7 mEq/L
   44 mg/dL
   102 mEq/L
   140 mEq/L
   29.9 %
   16.2 K/uL
        [image002.jpg]
                             [**2132-3-22**]  03:13 AM
   WBC
   16.2
   Hct
   29.9
   Plt
   432
   Cr
   1.3
   Glucose
   133
   Other labs: PT / PTT / INR:14.2/34.1/1.2, Differential-Neuts:91.8 %,
   Lymph:6.6 %, Mono:1.3 %, Eos:0.2 %, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr now involving left, transferred to the ICU
   for hypoxia.
   .
   .
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial pathogens. Legionella neg. Initial
   thoughts he  may have "eosinophilic process secondary to malignancy or
   something like a non-steroid responsive BOOP"
   - cont methylprednisolone 125mg q12
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   - repeat chest CT non-contrast
   - may need to consider lung biopsy
   .
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - await bone marrow biopsy results
   - appreciate hematology reccs.
   .
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -cont BB
   - hold ACEI for recent renal failure and contrast
   -Will check BNP and consider repeat TTE looking for severe MR [**First Name (Titles) **]
[**Last Name (Titles) 5976**]ric jet.
   .
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc.
   - monitor volume status
   - cont bb
   - hold ACEI for recent renal failure and contrast
   - goal continue neg 1 liter and follow BUN/Cr.
   .
   # ARF: resolved, Cr max 1.7 now down to 1.1
   - hold ACEi for contrast study
   .
   # h/o NSVT, SSS, s/p PM/ICD: continue metoprolol
   .
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin
   -Will try to locate path on prostate CA.
   .
   # FEN: low salt diet
   .
   # PPx: heparin SC, PPI given steroids, bowel reg prn [**Telephone/Fax (1) 5848**]
   .
   # Contact: wife [**Name (NI) **], brother would like to be called on saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   .
   # Code: full, discussed with patient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-22**] 03:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:  45 minutes

2132-03-23 08:27:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2132-3-23**] 05:15 AM
   [**3-22**]
   - repeat CT chest revealed slightly worsening opacities in left lung
   - echo ordered but not done
   - d/w son and pt regarding next steps of care and whether they would be
   amenable for lung biopsy
   - request for prostate CA records from [**Hospital1 17**] faxed
   - upon review of cart, pt's weight is up 10 pounds since admission (dry
   weight 160) -> diuresis with 40 IV lasix
   - pt refused bipap, at 5:30 AM, noted to desat persistantly in 79-80's
   on NRB after sitting up by side of the bed. Pt finally agreed to bipap,
   but did not tolerate and changed to cpap with sats to 95%. ABG
   7.47/48/58
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-3-22**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2132-3-22**] 08:43 PM
   Lorazepam (Ativan) - [**2132-3-23**] 05:00 AM
   Morphine Sulfate - [**2132-3-23**] 05:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-23**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 70 (65 - 92) bpm
   BP: 117/54(71) {102/44(59) - 145/87(97)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,693 mL
                                                                     40 mL
   PO:
                                                                  1,590 mL
             TF:
   IVF:
                                                                    103 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                    955 mL
   Urine:
                                                                  3,200 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,507 mL
                                                                   -915 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   PS : 0 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 94%
   ABG: 7.47/48/58/32/9
   Ve: 9.8 L/min
   PaO2 / FiO2: 58
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: diminished BS throughout
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   9.3 g/dL
   119 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.3 mEq/L
   44 mg/dL
   99 mEq/L
   139 mEq/L
   27.9 %
   21.1 K/uL
        [image002.jpg]
                             [**2132-3-22**]  03:13 AM
                             [**2132-3-23**]  03:35 AM
                             [**2132-3-23**]  05:06 AM
   WBC
   16.2
   21.1
   Hct
   29.9
   27.9
   Plt
   432
   380
   Cr
   1.3
   1.3
   TCO2
   36
   Glucose
   133
   119
   Other labs: PT / PTT / INR:14.2/34.1/1.2, Differential-Neuts:95.2 %,
   Lymph:3.5 %, Mono:1.0 %, Eos:0.2 %, Albumin:2.6 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr, transferred to the ICU for hypoxia.
   #Hypoxic: Patient has had a subacute course of hypoxia with some
   worsening today with PoA2 58 despite on non-rebreather. Wheezing on
   exam suggests bronchospasm although these have been present since
   admission. Alternatively, he may have cardiogenic wheezes in the
   setting of EF 20%, new lower ext edema and IVF given for pre-contrast.
   CXR is unchanged from the past several days and does not show notable
   pulmonary edema although this may be difficult to see given underlying
   infiltrates.
   - f/u CT final read to look at lung parenchyma
   - if effusion on CT, would tap and send for cytology
   - repeat echo today
   - continue O2 to maintain sat >93%
   - goal I/O neg 2 L today: goal weight is 160 pounds
   - nebs PRN
   - cont steroids: methylprednisone 125mg IV q8H
   - cont guiafenasin
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP".
   - cont methylprednisolone 125mg q8H
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   - may need to consider lung biopsy: discussion started with family on
   [**3-22**] regarding possible needs for tissue
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - await bone marrow biopsy results
   - appreciate hematology reccs.
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -cont BB
   -restart ACEI for afterload reduction
   .
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc.
   - monitor volume status
   - cont bb.
   # ARF: resolved, Cr max 1.7 now down to 1.1
   - hold ACEi for contrast study
   # h/o NSVT, SSS, s/p PM/ICD: continue metoprolol
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   -tamsulosin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-22**] 03:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-03-23 08:54:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with esosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable.  Treated with IV steroids.
   24 Hour Events:  CT scan of chest repeat yesterday final read pending.
   Son [**Name (NI) **] [**Name (NI) 5795**] wants to have a family meeting prior to going to biopsy.
   Reviewed records weight is 10lbs above dry weight of 160lbs.
   Records from [**Last Name (un) 5991**] pending.
   5:30 am hypoxic in 79-low 80
s on non-rebreather placed on CPAP with
   Sats up to 97%.  Also received ativan and morphine for dyspnea
   7.47/48/58 ABG on Non-rebreather.
   :
 INVASIVE VENTILATION - START [**2132-3-23**] 05:15 AM
   Morning events: Patient desats to low 70
s on face mask unable to
   tolerate being off BiPaP.  Intubated for hypoxemia.  Post intubation
   difficulty oxygenating secondary to Dysynchrony and unable to give
   sedation secondary to hypotension.  Paralyzed with vecuronium,
   oxygenation improved, Left IJ and Right Radial art line place by
   resident under my supervision.  Patients BP initially stabilized on
   peripheral dopamine and did experience one run of VT that resolved
   spontaneously.  Subsequently he became hypotensive in the setting of
   NSVT that resolves when NSVT breaks.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-3-22**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2132-3-22**] 08:43 PM
   Lorazepam (Ativan) - [**2132-3-23**] 05:00 AM
   Morphine Sulfate - [**2132-3-23**] 05:10 AM
   Other medications:
   Ipratropium Bromide Neb 1 NEB IH Q6H
   Metoprolol Tartrate 75 mg PO BID
   Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing  MethylPREDNISolone
   Sodium Succ 125 mg IV Q 8H
   Aspirin 325 mg PO DAILY
   Pantoprazole 40 mg PO Q24H
   Atorvastatin 80 mg PO DAILY
   Senna 1 TAB PO BID:PRN  Order date: [**3-22**] @ 0313
   Benzonatate 100 mg PO TID
   Simethicone 40-80 mg PO QID:PRN abdominal distention/gas pain
   Calcium Carbonate 500 mg PO BID
   Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Cepacol (Menthol) 1 LOZ PO PRN
   Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Docusate Sodium 100 mg PO BID
   Guaifenesin-CODEINE Phosphate [**4-6**] mL PO Q6H:PRN
   Sulfameth/Trimethoprim DS 1 TAB PO DAILY
   Heparin 5000 UNIT SC TID
   Tamsulosin 0.4 mg PO HS  Order date: [**3-22**] @ 0313
   Insulin SC  (per Insulin Flowsheet)Sliding Scale
   Vitamin D 50,000 UNIT PO QFRIDAY
   Changes to medical and family history:
   Please see admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems: per resident note
   Flowsheet Data as of  [**2132-3-23**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 70 (65 - 92) bpm
   BP: 117/54(71) {102/44(59) - 145/87(97)} mmHg
   RR: 22 (13 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,693 mL
                                                                     44 mL
   PO:
                                                                  1,590 mL
             TF:
   IVF:
                                                                    103 mL
                                                                     44 mL
   Blood products:
   Total out:
                                                                  4,200 mL
                                                                    955 mL
   Urine:
                                                                  3,200 mL
                                                                    955 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,507 mL
                                                                   -911 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 94%
   ABG: 7.47/48/58/32/9
   Ve: 5.5 L/min
   PaO2 / FiO2: 58
   Physical Examination
   Gen: awake, alert
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD, JVD 9cm  +HJR
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated  symmetric bil rales [**1-1**] way up bilaterally
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology: Chest increased right sided infiltrates.  CT
   chest/Abd-Results reviewed from [**3-22**] worsening left pulmonary process,
   ? 7mm renal cell lesion.
   9.3 g/dL
   380 K/uL
   119 mg/dL
   1.3 mg/dL
   32 mEq/L
   4.3 mEq/L
   44 mg/dL
   99 mEq/L
   139 mEq/L
   27.9 %
   21.1 K/uL
        [image002.jpg]
                             [**2132-3-22**]  03:13 AM
                             [**2132-3-23**]  03:35 AM
                             [**2132-3-23**]  05:06 AM
   WBC
   16.2
   21.1
   Hct
   29.9
   27.9
   Plt
   432
   380
   Cr
   1.3
   1.3
   TCO2
   36
   Glucose
   133
   119
   Other labs: PT / PTT / INR:14.2/34.1/1.2, Differential-Neuts:95.2 %,
   Lymph:3.5 %, Mono:1.0 %, Eos:0.2 %, Albumin:2.6 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   HIV negative
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr now CT scan demonstrated improved
   consolidation but now ground glass has increased.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Initial thoughts he may have "eosinophilic process
   secondary to malignancy.  Differential is still broad and definitive
   diagnosis would require VATS which he may not tolerate.
   - cont methylprednisolone 125mg q8
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] restart abx with Vanc/Gent
   - SSI while on steroids
   - Will be evaluated for lung biopsy by Dr. [**Last Name (STitle) **] in the morning
   - Will send Histo/Crypto/tularemia studies
   #Hypoxemia-diffuse ARDS process unclear etiology
   -ARDS net ventilation
   -Will attempt to avoid paralytics given steroids by escalating sedation
   #Hypotension-Worsened by NSVT
   -Continue levophen
   -Will check TTE with bubble
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Hold BB given hypotension
   - hold ACEI for recent renal failure and contrast
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - cont bb
   - hold ACEI for recent renal failure and contrast
   - goal continue neg 2 liter and follow BUN/Cr.
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - await bone marrow biopsy results
   - appreciate hematology reccs.
   .
   # ARF: -Stable will follow in setting of hypotension
   .
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   .
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -Will try to locate path on prostate CA.
   .
   # FEN: low salt diet
   .
   # PPx: heparin SC, PPI given steroids, bowel reg prn [**Telephone/Fax (1) 5848**]
   .
   # Contact: wife [**Name (NI) **], brother would like to be called on saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   .
   # Code: No CPR for Hypoxemic arrest discussed with family
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-22**] 03:51 AM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:I saw and examined the patient, and was physically
   present with the ICU team for the key portions of the services
   provided. I agree with Dr. [**Last Name (STitle) 5967**]
s findings and plan. The
   assessment and plan reflects our discussion. I would emphasize and add
   the following points: chart reviewed including radiology and all micro.
   Agree with sending histo Ab, crypto, tularemia Ab and repeat sputum
   culture. I would favor restarting antibiotics with Vanc and Gent (to
   cover the unlikely possibility of tularemia or other uncultured GN).
   Progressive acute respiratory failure is compatible with AIP,
   eosinophilic syndrome exacerbated by CHF in the setting of shock,
   malignancy possibly with lymphangitic spread (has known prostate ca
   which has been associated with eosinophilic pna). Patient is a never
   smoker but with years of unprotected exposure to metal dust as
   machinist.
   Currently on low-tidal volume assist control, peep 15, FiO2 100%. Exam
   as above, crackles at bases, no rashes. He is now pressor-dependent
   (levophed) with goals of keeping MAP>65, intermittent arrhythmias,
   known to EP, but question of reentry tachycardia. Urine output [**8-/2103**]
   cc/hr.
   Prognosis is poor. Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 75 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-23**] 17:56 ------

2132-03-24 09:27:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable.  Treated with IV steroids.
   24 Hour Events:
   Run VT, SVT, intubated, broad spectrum antibiotics added, hypercarbia,
   increased peak pressures.
 NON-INVASIVE VENTILATION - STOP [**2132-3-23**] 10:00 AM
 INVASIVE VENTILATION - START [**2132-3-23**] 10:10 AM
 ARTERIAL LINE - START [**2132-3-23**] 10:57 AM
 MULTI LUMEN - START [**2132-3-23**] 12:45 PM
 EKG - At [**2132-3-23**] 03:00 PM
 EKG - At [**2132-3-24**] 05:53 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-3-23**] 06:00 PM
   Gentamicin - [**2132-3-23**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min (Off)
   Other ICU medications:
   Vecuronium - [**2132-3-23**] 10:35 AM
   Pantoprazole (Protonix) - [**2132-3-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-24**] 08:00 AM
   Other medications:
   Lipitor
   asa
   SQ hep
   Colace
   RISS
   Atrovent
   Albuterol
   Vanc 1g Q 24
   PPI
   Ca
   Bactrim
   Methypred 125 Q8
   Changes to medical and family history:
   Please see admission H+P no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-24**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 67 (65 - 160) bpm
   BP: 88/54(70) {77/41(-3) - 139/71(92)} mmHg
   RR: 25 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 15 (8 - 18)mmHg
   Total In:
                                                                  2,443 mL
                                                                    807 mL
   PO:
   TF:
   IVF:
                                                                  2,383 mL
                                                                    597 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    235 mL
   Urine:
                                                                  1,605 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 3
   PEEP: 12 cmH2O
   FiO2: 80%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.24/70/113/29/0
   Ve: 10 L/min
   PaO2 / FiO2: 141
   Physical Examination
   Gen: awake, alert
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated  decreased left right CTA anterior
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology  Chest: Lines tubes (would move down ETT 2cm) in place
   decreased right sided infiltrates otherwise generally unchanged.
   8.9 g/dL
   477 K/uL
   200 mg/dL
   1.7 mg/dL
   29 mEq/L
   5.4 mEq/L
   51 mg/dL
   100 mEq/L
   136 mEq/L
   27.8 %
   29.4 K/uL
        [image002.jpg]
                             [**2132-3-23**]  05:06 AM
                             [**2132-3-23**]  09:17 AM
                             [**2132-3-23**]  12:38 PM
                             [**2132-3-23**]  03:25 PM
                             [**2132-3-23**]  06:24 PM
                             [**2132-3-23**]  07:39 PM
                             [**2132-3-24**]  04:04 AM
                             [**2132-3-24**]  04:21 AM
                             [**2132-3-24**]  06:01 AM
                             [**2132-3-24**]  07:46 AM
   WBC
   34.8
   29.4
   Hct
   29.0
   30
   27.8
   Plt
   575
   477
   Cr
   1.4
   1.7
   TCO2
   36
   37
   34
   30
   34
   33
   31
   Glucose
   162
   200
   Other labs: PT / PTT / INR:13.8/28.3/1.2, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.9 mg/dL  +
   Schistos occasional
   Histo-P, galact P Glucan P Tuleremia P, Stongi P  PSA 2.0
   Crypto neg
   C.Diff neg
   Fungal neg
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr now CT scan demonstrated improved
   consolidation but now ground glass has increased.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Initial thoughts he may have "eosinophilic process
   secondary to malignancy.  Differential is still broad and definitive
   diagnosis would require VATS which he may not tolerate.
   - Will taper methylprednisolone 125mg q8 will titrate down to 80 Q8
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] Continue Vanc/Gent
   - SSI while on steroids
   - Will be evaluated for lung biopsy by Dr. [**Last Name (STitle) **] in the morning
    - Histo /tularemia studies pending
   -  D
c albuterol
   #Hypoxemia-diffuse ARDS process unclear etiology
   -ARDS net ventilation
   -Will attempt to avoid paralytics given steroids by escalating sedation
   #Hypotension-Worsened by NSVT, suspect increased PEEP result of
   hypotension
   -Continue to titrate off pressors
   -Will check TTE and consider  bubble if needed.
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Hold BB given hypotension
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - cont bb
   - hold ACEI for recent renal failure and contrast
   - Goal even for now
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # ARF: -rise in Cr suspect related to hypotension yesterday.
   -If increases will spin urine to confirm ATN
   -Check lytes
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-F/u K+
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 HYPOXEMIA
   ICU Care:
   Nutrition: will start tube feeds
   Glycemic Control:  start Tube feeds
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-23**] 10:30 AM
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT: SQ Hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Started on Vasopressin last night for ongoing Levophed-dependent shock.
   Vigileo monitoring added this morning and TTE done consistent with
   severe LV dysfunction (EF 25-30%) and moderate pulmonary hypertension
   (TR grad 44). He has shown some improvement overnight with decreased
   FIO2 and PEEP requirements, and decreased Levophed requirement possibly
   as a result of decreasing the peep.
   Discussed case with Dr [**Last Name (STitle) **]. I agree risks of open lung biopsy appear
   to outweigh the potential benefit.This was discussed during today
   family meeting. Several micro studies are pending including
   beta-glucan, galactomannan, tularemia Ab, histo, strongyloides, and
   repeat sputum. Currently on Vanc and Gent, high dose solumedrol (dose
   will be decreased today to 80mg q8h).
   Imp - progressive acute respiratory failure of unclear etiology,
   concerning for: AIP, eosinophilic syndrome exacerbated by CHF in the
   setting of shock, malignancy possibly with lymphangitic spread (has
   known prostate ca which has been associated with eosinophilic pna).
   Patient is a never smoker but with years of unprotected exposure to
   metal dust as machinist.
   He also has shock (probably septic, cardiogenic), recurrent SVT, acute
   renal failure likely ATN, severe ischemic cardiomyopathy.
   Currently on low-tidal volume A/C 350 x 28, peep 12, FiO2 80%. Exam as
   above, with coarse sounds, regular HS, no rashes, LUE edema. He remains
   pressor-dependent (Vasopressin and Levophed) with goals of keeping
   MAP>65. No recurrence of SVT since yesterday - question of reentry
   tachycardia.
   Prognosis remains guarded. Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-24**] 03:58 PM ------

2132-03-24 09:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2132-3-23**] 10:00 AM
 INVASIVE VENTILATION - START [**2132-3-23**] 10:10 AM
 ARTERIAL LINE - START [**2132-3-23**] 10:57 AM
 MULTI LUMEN - START [**2132-3-23**] 12:45 PM
 EKG - At [**2132-3-23**] 03:00 PM
 EKG - At [**2132-3-24**] 05:53 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-3-23**] 06:00 PM
   Gentamicin - [**2132-3-23**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2132-3-23**] 10:35 AM
   Pantoprazole (Protonix) - [**2132-3-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-24**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 67 (65 - 160) bpm
   BP: 88/54(70) {77/41(-3) - 139/71(92)} mmHg
   RR: 25 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (8 - 18)mmHg
   Total In:
                                                                  2,443 mL
                                                                    811 mL
   PO:
   TF:
   IVF:
                                                                  2,383 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    235 mL
   Urine:
                                                                  1,605 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    576 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 80%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.24/70/113/29/0
   Ve: 10 L/min
   PaO2 / FiO2: 141
   Physical Examination
   GEN: incubated sedated, unresponsive
   Neck: IJ in place
   Pulm: dry crackles 1/3 up R>L, poor air movement
   Heart: RRR, no murmurs
   Abd: soft, NT/ND
   Ext: no edema
   Labs / Radiology
   477 K/uL
   8.9 g/dL
   200 mg/dL
   1.7 mg/dL
   29 mEq/L
   5.4 mEq/L
   51 mg/dL
   100 mEq/L
   136 mEq/L
   27.8 %
   29.4 K/uL
        [image002.jpg]
                             [**2132-3-23**]  05:06 AM
                             [**2132-3-23**]  09:17 AM
                             [**2132-3-23**]  12:38 PM
                             [**2132-3-23**]  03:25 PM
                             [**2132-3-23**]  06:24 PM
                             [**2132-3-23**]  07:39 PM
                             [**2132-3-24**]  04:04 AM
                             [**2132-3-24**]  04:21 AM
                             [**2132-3-24**]  06:01 AM
                             [**2132-3-24**]  07:46 AM
   WBC
   34.8
   29.4
   Hct
   29.0
   30
   27.8
   Plt
   575
   477
   Cr
   1.4
   1.7
   TCO2
   36
   37
   34
   30
   34
   33
   31
   Glucose
   162
   200
   Other labs: PT / PTT / INR:13.8/28.3/1.2, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic: Now intubated and sedated.  Patient has had a subacute course
   of hypoxia with some worsening today with PoA2 58 despite on
   non-rebreather. Wheezing on exam suggests bronchospasm although these
   have been present since admission. Alternatively, he may have
   cardiogenic wheezes in the setting of EF 20%, new lower ext edema and
   IVF given for pre-contrast. CXR is unchanged from the past several days
   and does not show notable pulmonary edema although this may be
   difficult to see given underlying infiltrates.  CT appears to have
   pulmonary edema, as compared to prior that showed more consolidation.
   - f/u CT final read to look at lung parenchyma
   - repeat TTE
   - continue O2 to maintain sat >93%
   -  no further diuresis given hyptoension
   - nebs PRN
   - [**Month (only) 453**] steroids: methylprednisone 125mg IV q8H to 80mg qD
   - cont guiafenasin
   - consult cardiothoracic surgery VATS
   - cont Vanc and gent for empiric abx in case there is infection
   # Hypercarbia: need to ventilate more efficiently, may be [**12-31**] ARDSnet
   ventilation
   - [**Month (only) 453**] dead space
   - [**Month (only) 453**] RR as may be overdistended
   - [**Month (only) 453**] steroids, but maintain enough to avoid adrenal insufficiency
   .
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS.
   - keep MAP >65, SBP >60
   - keep I/O even
   - [**Month (only) 453**] PEEP
   - wean pressors
   - obtain echo
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP".
   - tularemia, histoplasmosis, aspergillus, beta-glucan, galactomanin
   pending
   - mycolitic blood cx pending
   - [**Month (only) 453**] methylprednisolone 125mg q8H to 80mg q day
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   - may need to consider lung biopsy: discussion started with family on
   [**3-22**] regarding possible needs for tissue
   # VT/ NSVT, SSS, s/p PM/ICD:  ahs had runs of VT
   - holding metoprolol for hypotension
   - EP involved
   - keep K and Mg up
   - cardiac monitoring
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.
   - daily hct
   - await final  bone marrow biopsy results
   - appreciate hematology reccs.
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   - hold  BB
   -holding ACEI for hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc.
   - monitor volume status
   - cont bb.
   # ARF: non-oliguric renal failure with low sodium, Cr max 1.7 was down
   to 1.1 but now back up to 1.7, may be pre-renal with hypotension vs ATN
   - holding ACEi for hypotension
   - improve perfusion
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the  vassopression, EKG w/o peaked T
   - monitor
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-23**] 10:30 AM
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT:  heparin sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-03-24 10:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2132-3-23**] 10:00 AM
 INVASIVE VENTILATION - START [**2132-3-23**] 10:10 AM
 ARTERIAL LINE - START [**2132-3-23**] 10:57 AM
 MULTI LUMEN - START [**2132-3-23**] 12:45 PM
 EKG - At [**2132-3-23**] 03:00 PM
 EKG - At [**2132-3-24**] 05:53 AM
   - became hypoxic on 100% facemask, intubated for respiratory support
   - became hypotensive requiring pressors, arterial line and CVL placed
   - had runs of VT and then SVT, talked w/ EP who thought likely just in
   setting of intubation, will wear off; to cardiovert / defibrillate if
   needed for instability, no anti-arrhythmics
   - HIV negative, PSA 2.0
   - sent fungal studies, peripheral smear, sputum cytology
   - started Vancomycin and Gentamicin for broad-spectrum coverage
   - made DNR (no CPR for hypoxia), otherwise resuscitation okay
   - currently on levophed and vasopressin, titrate to MAP >65
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-3-23**] 06:00 PM
   Gentamicin - [**2132-3-23**] 08:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Vecuronium - [**2132-3-23**] 10:35 AM
   Pantoprazole (Protonix) - [**2132-3-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-24**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 67 (65 - 160) bpm
   BP: 88/54(70) {77/41(-3) - 139/71(92)} mmHg
   RR: 25 (0 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (8 - 18)mmHg
   Total In:
                                                                  2,443 mL
                                                                    807 mL
   PO:
   TF:
   IVF:
                                                                  2,383 mL
                                                                    597 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    235 mL
   Urine:
                                                                  1,605 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    838 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 480) mL
   RR (Set): 28
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 80%
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   Compliance: 21.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.24/70/113/29/0
   Ve: 10 L/min
   PaO2 / FiO2: 141
   Physical Examination
   GEN: comfortable, A&Ox3
   Pulm: dry crackles 1/3 up R>L, poor air movement
   Heart: RRR, no murmurs
   Abd: soft, NT/ND
   Ext: no edema
   Labs / Radiology
   477 K/uL
   8.9 g/dL
   200 mg/dL
   1.7 mg/dL
   29 mEq/L
   5.4 mEq/L
   51 mg/dL
   100 mEq/L
   136 mEq/L
   27.8 %
   29.4 K/uL
        [image002.jpg]
                             [**2132-3-23**]  05:06 AM
                             [**2132-3-23**]  09:17 AM
                             [**2132-3-23**]  12:38 PM
                             [**2132-3-23**]  03:25 PM
                             [**2132-3-23**]  06:24 PM
                             [**2132-3-23**]  07:39 PM
                             [**2132-3-24**]  04:04 AM
                             [**2132-3-24**]  04:21 AM
                             [**2132-3-24**]  06:01 AM
                             [**2132-3-24**]  07:46 AM
   WBC
   34.8
   29.4
   Hct
   29.0
   30
   27.8
   Plt
   575
   477
   Cr
   1.4
   1.7
   TCO2
   36
   37
   34
   30
   34
   33
   31
   Glucose
   162
   200
   Other labs: PT / PTT / INR:13.8/28.3/1.2, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic: Patient has had a subacute course of hypoxia with some
   worsening today with PoA2 58 despite on non-rebreather. Wheezing on
   exam suggests bronchospasm although these have been present since
   admission. Alternatively, he may have cardiogenic wheezes in the
   setting of EF 20%, new lower ext edema and IVF given for pre-contrast.
   CXR is unchanged from the past several days and does not show notable
   pulmonary edema although this may be difficult to see given underlying
   infiltrates.  CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation.
 Now intubated, on ARDS-net
   ventilation.
   - wean FiO2 as tolerated by serial ABGs
   - cont ARDSnet ventilation
   - repeat TTE
   - CT surgery for VATS
   - continue O2 to maintain sat >93%
   - goal I/O neg 2 L today: goal weight is 160 pounds
   - nebs PRN
 d/c albuterol, not ipratropium
   - cont steroids: methylprednisone 125mg IV q8H
   - cont guiafenasin
   # Hypotension
 f/u TTE, decr
   # ID
 f/u fungal studies
   - cont broad spectrum Abx
   - wean steroids
   - consider anti-fungal coverage
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP".
   - cont methylprednisolone 125mg q8H
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   - may need to consider lung biopsy: discussion started with family on
   [**3-22**] regarding possible needs for tissue
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.  Anemia of chronic disease.
   -daily hct
   - await bone marrow biopsy results
   - appreciate hematology reccs.
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -cont BB
   -restart ACEI for afterload reduction
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc.
   - monitor volume status
   - cont bb.
   # ARF: resolved, Cr max 1.7 now down to 1.1
   - hold ACEi for contrast study
   # h/o NSVT, SSS, s/p PM/ICD: continue metoprolol
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   -tamsulosin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-23**] 10:30 AM
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-03-25 08:43:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable.
   24 Hour Events:
   CT surgery consult-no biopsy secondary to risk.
 TRANSTHORACIC ECHO - At [**2132-3-24**] 08:35 AM-EF 25-30% increased PASP
   compared to prior.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   day #3 Gentamicin - [**2132-3-23**] 08:00 PM q48
   day #3 Vancomycin - [**2132-3-24**] 11:11 AM q24
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-3-24**] 08:00 PM
   Other medications:
   Lipitor
   asa
   SQ hep
   Colace
   RISS
   Atrovent
   Albuterol
   Vanc 1g Q 24
   PPI
   Ca
   Bactrim 1 po qday
   Methypred 80 Q8
   Changes to medical and family history:
   See admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems:
     Urine per hr 20-30cc
   Flowsheet Data as of  [**2132-3-25**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 65 (65 - 84) bpm
   BP: 119/48(67) {88/35(51) - 160/65(96)} mmHg
   RR: 15 (0 - 32) insp/min
   SpO2: 95%
   Heart rhythm: A Paced
   CVP: 6 (3 - 15)mmHg
   Total In:
                                                                  1,972 mL
                                                                    325 mL
   PO:
   TF:
   IVF:
                                                                  1,612 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                    828 mL
                                                                    283 mL
   Urine:
                                                                    788 mL
                                                                    253 mL
   NG:
                                                                     40 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,144 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 23.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/47/72/28/5
   Ve: 11.1 L/min
   PaO2 / FiO2: 103
   Physical Examination
   Gen: awake, alert
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated  bronchial right anterior BS left vesicular.
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology: Chest ETT 7cm above carina and at level of aortic
   knob.  Lines in place Improved diffuse patchy infiltrates.
   7.8 g/dL
   349 K/uL
   141 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   59 mg/dL
   100 mEq/L
   137 mEq/L
   24.3 %
   19.2 K/uL
        [image002.jpg]
                             [**2132-3-24**]  07:46 AM
                             [**2132-3-24**]  10:20 AM
                             [**2132-3-24**]  10:36 AM
                             [**2132-3-24**]  12:49 PM
                             [**2132-3-24**]  04:42 PM
                             [**2132-3-24**]  06:16 PM
                             [**2132-3-24**]  06:34 PM
                             [**2132-3-25**]  12:57 AM
                             [**2132-3-25**]  02:58 AM
                             [**2132-3-25**]  03:56 AM
   WBC
   19.2
   Hct
   24.3
   Plt
   349
   Cr
   1.6
   1.5
   1.7
   TCO2
   31
   30
   30
   29
   29
   30
   32
   Glucose
   249
   171
   141
   Other labs: PT / PTT / INR:13.4/28.5/1.1, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.1 mg/dL.
   Gent 1.9 random due at 4pm.
   Histo-P, galact P Glucan P Tuleremia P, Stongi P
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on cxr.  Clinically mild improvement.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Initial thoughts he may have "eosinophilic process
   secondary to malignancy.  Differential is still broad and definitive
   diagnosis would require VATS which he may not tolerate.
   - Will taper methylprednisolone over next few weeks to equivalent of 30
   mg prednisone for Acute eosinophilic PNA  will drop dose to 40mg q8hr.
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] Continue Vanc/Gent day #3 (x-rays improved will continue) will
   check Gent Peak.
   - SSI while on steroids
   - Appreciate Dr. [**Last Name (STitle) 6015**] input
    - Histo /tularemia/fungal studies pending
   -Continue ARDS net ventilation and titrate FIO2 as tolerated
   # ARF: -rise in Cr suspect related to hypotension yesterday.
   -If increases will spin urine to confirm ATN
   -Check lytes
   #Hypotension-Worsened by NSVT, suspect increased PEEP result of
   hypotension
   -Continue to titrate off pressors
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Hold BB given hypotension
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   Appears mildly volume overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - cont bb
   - hold ACEI for recent renal failure and contrast
   - Goal even for now
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -daily hct
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-F/u K+
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-3-22**] 03:51 AM
   18 Gauge - [**2132-3-23**] 10:30 AM
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer:  PPI
   VAP:
   Comments: Daily awakening
   Communication:  Comments:
   Code status: DNR
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight. Exam significant for rhonchorous sounds on right. 2+
   edema. Overall fluid balance 1 liter positive. Leukocytosis improved,
   urine output 20-30 cc/hr with unchanged creatinine at 1.7.
   CXR shows less opacification of right lung, somewhat improved since
   yesterday. Patient continues to be vent dependent, on a/c 350x 28, 10,
   50% O2. Will try to wean FiO2 tonight. Remains sedated on versed and
   fentanyl with ongoing albeit low Levophed requirements.
   TTE is consistent with severe LV dysfunction (EF 25-30%) and moderate
   pulmonary hypertension (TR grad 44). He has shown some improvement over
   past two days with decreased FIO2 and PEEP requirements, and decreased
   Levophed requirement possibly as a result of decreasing the peep.
   Several micro studies are pending including beta-glucan, galactomannan,
   tularemia Ab, histo, strongyloides, and repeat sputum. Remains on Vanc
   and Gent, tapering  Solumedrol (dose will be decreased today to 40mg
   q8h). Tube feeds were initiated.
   Imp - progressive acute respiratory failure of unclear etiology,
   concerning for: AIP, eosinophilic syndrome exacerbated by CHF in the
   setting of shock, less likely malignancy with lymphangitic spread.
   Patient is a never smoker but with years of unprotected exposure to
   metal dust as machinist.
   He also has shock (probably septic and cardiogenic), recurrent SVT,
   acute renal failure likely ATN, severe ischemic cardiomyopathy. Will
   keep on low-tidal volume A/C 350 x 28, peep 10, FiO2 50%. He remains
   pressor-dependent (Levophed) with goals of keeping MAP>65.
   Prognosis remains guarded. Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note.
   Patient is critically ill. Total time 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-25**] 18:09 ------

2132-03-26 07:33:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:
   [**3-25**]
   - decreased solumedrol to 40 Q8H
   - started TF
   - tried to increase PEEP to 12 and decrease FiO2 to 60, but did not
   improve oxygenation, now back to FiO2 70 after ABG 7.55/36/68.
   - gave 20 IV lasix for net pos at 9PM
   - urine spun and sediment with hyaline casts with no muddy browns
   Pt denies pain.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-23**] 08:00 PM
   Vancomycin - [**2132-3-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-25**] 08:00 PM
   Furosemide (Lasix) - [**2132-3-25**] 11:25 PM
   Other medications:
   Flowsheet Data as of  [**2132-3-26**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.5
   HR: 64 (64 - 70) bpm
   BP: 119/48(68) {67/35(46) - 166/69(101)} mmHg
   RR: 32 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: A Paced
   Height: 64 Inch
    CVP: 3 (2 - 7)mmHg
   Total In:
                                                                  1,247 mL
                                                                    437 mL
   PO:
   TF:
                                                                    104 mL
   IVF:
                                                                  1,037 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                    733 mL
   Urine:
                                                                    976 mL
                                                                    733 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    241 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 98%
   ABG: 7.55/36/68/30/8
   Ve: 12.1 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest: mild coarse breath sounds improved from one day
   prior, no crackels
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  2+ edema hands and feet
   Neurologic: Responds to: voice
   Labs / Radiology
   349 K/uL
   7.3 g/dL
   128 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   57 mg/dL
   102 mEq/L
   138 mEq/L
   22.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2132-3-24**]  04:42 PM
                             [**2132-3-24**]  06:16 PM
                             [**2132-3-24**]  06:34 PM
                             [**2132-3-25**]  12:57 AM
                             [**2132-3-25**]  02:58 AM
                             [**2132-3-25**]  03:56 AM
                             [**2132-3-25**]  06:13 PM
                             [**2132-3-26**]  03:23 AM
                             [**2132-3-26**]  04:28 AM
                             [**2132-3-26**]  06:42 AM
   WBC
   19.2
   16.4
   Hct
   24.3
   22.4
   Plt
   349
   349
   Cr
   1.5
   1.7
   1.4
   TCO2
   29
   29
   30
   32
   35
   34
   32
   Glucose
   171
   141
   128
   Other labs: PT / PTT / INR:14.4/38.8/1.3, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   - gent peak 8.7
   Bone Marrow biopsy results:
   1.  Markedly hypercellular bone marrow for age (60-70% cellular)
   with maturing trilineage hematopoiesis and eosinophilia, see note.
   2.  Increased iron stores with decreased sideroblasts consistent with
   anemia of inflammatory block, see note.
   Microbiology:
   [**2132-3-24**]    IGE: P
   [**2132-3-23**]    GALACTOMANNAN ANTIGEN: NEGATIVE
   [**2132-3-23**]    HISTOPLASMA : P
   [**2132-3-23**]    FRANCISELLA TULARENSIS: P
   [**2132-3-23**]    B-GLUCAN  : P
   [**2132-3-21**]    STRONGYLOIDES: P
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned.
   - weaning vent but maintain SaO2 >93%
   - frequent ABGs
   - goal I/O even today
   - continue lower-dose steroids: decrease to 20mg IV solumedrol Q8hrs,
   slow taper to avoid adrenal insufficiency with goal to equivalent 30 mg
   prednisone X 1 (=24 solumedrol)  month
   - cont Vanc / Gent empiric Abx
   - f/u fungal Cx and infectious data
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP".
   - beta-glucan, galactomannan, histoplasma, tularemia pending
   - mycolitic blood cx pending
   - cont lower-dose steroids
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - wean vasopressors, keep MAP >65
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # ARF: non-oliguric renal failure with low sodium, Cr max 1.7 was down
   to 1.1 but now back up to 1.7, may be pre-renal with hypotension vs
   ATN. Gent levels appropriate
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - monitor
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-26**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2132-03-26 08:18:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable
   24 Hour Events:
   Decreased solumedrol to 40mg q8
   Started tube feeds
   increased PEEP to 12 no change
   7.48/42/148 on 70%
   20 lasix last night
   No muddy browns on spun urine
   Responds to questions appropriately
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-23**] 08:00 PM
   Vancomycin - [**2132-3-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min  (off)
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-3-25**] 08:00 PM
   Furosemide (Lasix) - [**2132-3-25**] 11:25 PM
   Other medications:
   Lipitor
   asa
   SQ hep 5K tid
   Colace
   RISS
   Atrovent
   Albuterol
   Vanc 1g Q 24
   PPI
   Ca
   Bactrim 1 po qday
   Methypred 40 Q8
   Changes to medical and family history:
   See admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2132-3-26**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 65 (64 - 70) bpm
   BP: 108/49(67) {67/35(46) - 166/69(101)} mmHg
   RR: 32 (15 - 34) insp/min
   SpO2: 96%
   Heart rhythm: A Paced
   Height: 64 Inch
   CVP: 3 (2 - 7)mmHg
   Total In:
                                                                  1,247 mL
                                                                    494 mL
   PO:
   TF:
                                                                    126 mL
   IVF:
                                                                  1,037 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,006 mL
                                                                    893 mL
   Urine:
                                                                    976 mL
                                                                    893 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                    241 mL
                                                                   -399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 96%
   ABG: 7.55/36/68/30/8
   Ve: 12.1 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Gen: awake, responds appropriately
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated  bronchial right anterior BS improved left vesicular
   unchanged.
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 2+ edema
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology:  ETT elevated will advance 2cm, lines tubes otherwise
   in place.  Overall infltrates on right improving.
   7.3 g/dL
   349 K/uL
   128 mg/dL
   1.4 mg/dL
   30 mEq/L
   4.0 mEq/L
   57 mg/dL
   102 mEq/L
   138 mEq/L
   22.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2132-3-24**]  04:42 PM
                             [**2132-3-24**]  06:16 PM
                             [**2132-3-24**]  06:34 PM
                             [**2132-3-25**]  12:57 AM
                             [**2132-3-25**]  02:58 AM
                             [**2132-3-25**]  03:56 AM
                             [**2132-3-25**]  06:13 PM
                             [**2132-3-26**]  03:23 AM
                             [**2132-3-26**]  04:28 AM
                             [**2132-3-26**]  06:42 AM
   WBC
   19.2
   16.4
   Hct
   24.3
   22.4
   Plt
   349
   349
   Cr
   1.5
   1.7
   1.4
   TCO2
   29
   29
   30
   32
   35
   34
   32
   Glucose
   171
   141
   128
   Other labs: PT / PTT / INR:14.4/38.8/1.3, CK / CKMB / Troponin-T:70//,
   ALT / AST:28/37, Alk Phos / T Bili:74/0.3, Differential-Neuts:97.0 %,
   Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:2.7
   g/dL, LDH:521 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Galatomonan negative    Gent Peak 8.7
   Histo-P, Glucan P Tuleremia P, Stongi P
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically sig
   improvement in oxygenation.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Suspect he may have Acute eosinophilic PNA with ARDS
   and volume overload and is now responding to tx.
   - Will taper methylprednisolone over next few weeks to equivalent of 30
   mg prednisone for Acute eosinophilic PNA  will drop dose to 20 mg
   q8hr.  Goal 24 solumedrol Qday
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] Continue Vanc/Gent day #3 (x-rays improved will continue) will
   check Gent Peak.
   - SSI while on steroids
   - Appreciate Dr. [**Last Name (STitle) 6015**] input
    - Histo /tularemia studies pending
   -Continue ARDS net ventilation and titrate FIO2 as tolerated
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.
   -Will transfuse today with lasix
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # ARF: -Improved.
   -No signs of  ATN
   #Hypotension-Worsened by NSVT, suspect increased PEEP result of
   hypotension
   -Continue to titrate off pressors
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Hold BB given hypotension
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   Appears mildly volume overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - Holding BB
   - hold ACEI for recent renal failure and contrast
   - Goal even for now
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-F/u K+
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-26**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT:  SQ hep
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight. Overnight events noted above. Urine showed no casts.
   Peep increased to 12. pO2 148 on peep 12, fio2 70%. Exam 112/53, HR 93,
   sat 92% on a/c 350x28, 12, 50%. Lungs sounds clear ant/lat (rare
   crackles left base), 2+ edema UE>LE. Overall fluid balance even.
   Leukocytosis improving to 16, creatinine at 1.4.
   CXR continues to show no progression on left and improved airspace
   disease on right. Patient continues to be vent dependent, on a/c 350x
   28, 12, 50% O2. Will try to wean FiO2 tonight. Remains sedated on
   versed and fentanyl.
   TTE [**3-24**] showed severe LV dysfunction (EF 25-30%) and moderate
   pulmonary hypertension (TR grad 44).
   Several micro studies are pending including beta-glucan, galactomannan,
   tularemia Ab, histo, strongyloides, and repeat sputum. Remains on Vanc
   and Gent, tapering Solumedrol (dose will be decreased today to 20mg
   q8h). Getting tube feeds.
   Imp - progressive acute respiratory failure of unclear etiology,
   concerning for: eosinophilic syndrome exacerbated by CHF in the setting
   of shock, less likely malignancy with lymphangitic spread.
   He also has recurrent SVT, improving acute renal failure likely ATN,
   severe ischemic cardiomyopathy. Will keep on low-tidal volume A/C 350 x
   28, peep 10, FiO2 50%.
   Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note. Patient is critically ill.
   Total time 38 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-26**] 14:53 ------

2132-03-27 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2132-3-26**] 12:00 PM
 EKG - At [**2132-3-26**] 03:40 PM
 EKG - At [**2132-3-26**] 04:30 PM
   -decreased solumedrol to 20mg q8h
   -transfused one unit PRBC given hct trending down and CAD (didn't get
   transfusion until ~10 pm due to difficulty with crossmatch, per blood
   bank fellow he has warm autoimmune antibodies)
   -had two episodes of self limited tachycardia, likely SVT at rate
   150bpm (FYI pacer is set for atrial tachycardia at 180 and ventricular
   tachycardia at 170)
   -ETT advanced 2 cm
   -EKG following afternoon SVT with new T wave inversions in II, III, aVF
   and V3-6, cardiac enzymes negative x3
   -LUE edema > RUE; U/S showed axillary DVT, ? brachial also --> started
   on heparin gtt w/ bolus
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-3-25**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-26**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-26**] 08:07 AM
   Heparin Sodium - [**2132-3-27**] 03:00 AM
   Other medications:
   Flowsheet Data as of  [**2132-3-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (65 - 170) bpm
   BP: 111/45(65) {111/44(65) - 139/52(77)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 5 (1 - 16)mmHg
   Total In:
                                                                  1,969 mL
                                                                    639 mL
   PO:
   TF:
                                                                    770 mL
                                                                    213 mL
   IVF:
                                                                    789 mL
                                                                    266 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,568 mL
                                                                    355 mL
   Urine:
                                                                  1,568 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.46/43/86/27/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: RRR, no murmurs
   Respiratory / Chest: mild coarse breath sounds, improving
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  3+ LUE, 2+ RUE and BLE edema
   Neurologic: sedated
   Labs / Radiology
   243 K/uL
   8.7 g/dL
   146 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.6 mEq/L
   59 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   15.2 K/uL
        [image002.jpg]
                             [**2132-3-26**]  09:08 AM
                             [**2132-3-26**]  10:50 AM
                             [**2132-3-26**]  03:48 PM
                             [**2132-3-26**]  04:03 PM
                             [**2132-3-26**]  06:22 PM
                             [**2132-3-26**]  09:21 PM
                             [**2132-3-26**]  09:28 PM
                             [**2132-3-27**]  02:24 AM
                             [**2132-3-27**]  02:37 AM
                             [**2132-3-27**]  05:48 AM
   WBC
   15.2
   Hct
   26.0
   Plt
   243
   Cr
   1.3
   TropT
   0.02
   0.02
   0.02
   TCO2
   32
   33
   32
   33
   30
   36
   32
   Glucose
   146
   Other labs: PT / PTT / INR:14.1/53.6/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:28/37, Alk Phos / T Bili:74/0.3,
   Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:521 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: beta-glucan, galactomannan negative
   tularemia, histoplasma, IgE, strongyloides pending
   Microbiology: AFB/fungal - (prelim) negative
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned.
   - weaning vent but maintain SaO2 >93%
   - frequent ABGs
   - goal I/O even today
   - continue lower-dose steroids: decrease to 10mg IV solumedrol Q8hrs,
   slow taper to avoid adrenal insufficiency with goal to equivalent 30 mg
   prednisone X 1 (=24 solumedrol)  month
   - cont Vanc / Gent empiric Abx
   - f/u fungal Cx and infectious data
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative.
   - histoplasma, tularemia pending
   - cont lower-dose steroids
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - heparin gtt
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - obtain smear, hapto, LDH
   - touch base with heme
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - wean vasopressors, keep MAP >65
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # ARF: non-oliguric renal failure with low sodium, Cr max 1.7 was down
   to 1.1 but now back up to 1.7, may be pre-renal with hypotension vs
   ATN. Gent levels appropriate. No muddy brown casts --> not ATN.
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   - dose gent by level if <2 today will give early and change to q day
   dosing
   - follow gent troughs
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - monitor
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Lines:
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT: Boots, heparin gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Code status: DNR / DNI
   Disposition:ICU

2132-03-27 07:55:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable
   24 Hour Events:
   Solumedrol down to 20mg qid
   Received 1 unit PRBC
Has warm auto immune antibodies.
   2 epsiodes of SVT in 150
s (pacer set for rate of 180), new Twave
   inversion II, III and AVF
   Left upper extermity edema US demonstrated axillary DVT and brachial
   DVT as well.
 SPUTUM CULTURE - At [**2132-3-26**] 12:00 PM
 EKG - At [**2132-3-26**] 03:40 PM
 EKG - At [**2132-3-26**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Day #4 Vancomycin - [**2132-3-25**] 08:00 AM
   Day #4 Gent
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-26**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2132-3-26**] 08:07 AM
   Heparin Sodium - [**2132-3-27**] 03:00 AM
   Other medications:
   Lipitor
   asa
   Colace
   RISS
   Atrovent
   PPI
   Ca
   Bactrim 1 po qday
   Methypred 20 Q8
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:Unable to obtain
   Flowsheet Data as of  [**2132-3-27**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 83 (65 - 170) bpm
   BP: 111/45(65) {111/44(65) - 139/52(77)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 5 (1 - 16)mmHg
   Total In:
                                                                  1,969 mL
                                                                    652 mL
   PO:
   TF:
                                                                    770 mL
                                                                    213 mL
   IVF:
                                                                    789 mL
                                                                    279 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,568 mL
                                                                    355 mL
   Urine:
                                                                  1,568 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                    297 mL
   Urine 25-90cc/hr urine
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 93%
   ABG: 7.46/43/86/27/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 143
   Physical Examination
   Gen: Sedated
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated  bronchial right anterior BS stable  left vesicular
   unchanged.
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema symetric
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology: Unchanged from prior advace tube 2cm Line otherwise
   in place
   8.7 g/dL
   243 K/uL
   146 mg/dL
   1.3 mg/dL
   27 mEq/L
   4.6 mEq/L
   59 mg/dL
   102 mEq/L
   137 mEq/L
   26.0 %
   15.2 K/uL
        [image002.jpg]
                             [**2132-3-26**]  09:08 AM
                             [**2132-3-26**]  10:50 AM
                             [**2132-3-26**]  03:48 PM
                             [**2132-3-26**]  04:03 PM
                             [**2132-3-26**]  06:22 PM
                             [**2132-3-26**]  09:21 PM
                             [**2132-3-26**]  09:28 PM
                             [**2132-3-27**]  02:24 AM
                             [**2132-3-27**]  02:37 AM
                             [**2132-3-27**]  05:48 AM
   WBC
   15.2
   Hct
   26.0
   Plt
   243
   Cr
   1.3
   TropT
   0.02
   0.02
   0.02
   TCO2
   32
   33
   32
   33
   30
   36
   32
   Glucose
   146
   Other labs: PT / PTT / INR:14.1/53.6/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:28/37, Alk Phos / T Bili:74/0.3,
   Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:521 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.8 mg/dL
   Galatomonan negative, Glucan    Gent random pending If less than 2 will
   need to push up dose.
   Histo-P,  Tuleremia P, Stongi P
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   stable today.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Suspect he may have Acute eosinophilic PNA with ARDS
   and volume overload and is now responding to tx.
   - Will taper methylprednisolone over next few weeks to equivalent of 30
   mg prednisone for Acute eosinophilic PNA  will drop dose to 10 mg q8hr
   and hold at this level.  Goal equivalent of 30mg prednisone per day or
   24 solumedrol Qday.
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] Continue Vanc/Gent day #4 (x-rays improved will continue) will
   check Gent Peak.
   - SSI while on steroids
   - Appreciate Dr. [**Last Name (STitle) 6015**] input
    - Histo /tularemia studies pending
   -Continue ARDS net ventilation and titrate FIO2 as tolerated will then
   decrease PEEP.  No changes at this time.
   #Left Upper extremity DVT
   -Continue heprin drip
   #GI-Mild ileus/ residuals on tube feeds
   -Will need stimulant.  Senna/bisacodyl
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.  Also recent warm agglutins.
   - Will repeat hemolysis labs.
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # ARF: -Improved.
   -No signs of  ATN
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Will consider restarting low dose BB
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   Appears mildly volume overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - Holding BB
   - hold ACEI for recent renal failure and contrast
   - Goal even for now
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-stable
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family.  He remains
   critically ill will set up meeting with family to discuss goals of
   care.
   ICU Care-Wean sedation last effort became very dysncronous.
   Nutrition: Start tube feeds.
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-3-23**] 10:57 AM
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight. Overnight events noted above: transfused 1 unit prbc,
   found to have LUE DVT, creat improved at 1.3.
   pO2 78 on peep 12, fio2 60%. Exam MAPs 71-90, HR 70-94, sat 93-100% on
   a/c 350x28, 12, 60%. Lungs sounds clear ant/lat (rare crackles left
   base), 2+ edema UE>LE. Overall fluid balance + 400 ml. Leukocytosis
   improving to 15, creatinine at 1.3. Beta glucan negative.
   CXR continues to show no progression on left and improved airspace
   disease on right. Patient continues to be vent dependent, on a/c 350x
   28, 12, 50% O2. Remains sedated on versed and fentanyl.
   TTE [**3-24**] showed severe LV dysfunction (EF 25-30%) and moderate
   pulmonary hypertension (TR grad 44).
   Several micro studies are pending including Asperg galactomannan,
   tularemia Ab, histo, strongyloides. Remains on Vanc and Gent,
   Solumedrol. Getting tube feeds.
   IMP
   Progressive acute respiratory failure of unclear etiology, concerning
   for: eosinophilic syndrome exacerbated by CHF in the setting of shock
   and SVT, less likely malignancy with lymphangitic spread. C/w
   Solumedrol. Will try increasing tidal volume to 400 ml.
   Upper extremity DVT
 on IV heparin
   Other issues include recurrent SVT, improving acute renal failure
   likely ATN, severe ischemic cardiomyopathy.
   Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note. Patient is critically ill.
   Total time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-27**] 17:42 ------

2132-03-28 07:19:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2132-3-28**] 04:17 AM
   [**4-30**] RR and inc TV
   - weaning FiO2
   - weaned pressors
   - lasix 20mg IV x1
   - a-line fell out
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   D6 Vancomycin - [**2132-3-27**] 08:00 AM
   D6  Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Infusions:
   Heparin Sodium - 250 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-28**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 89 (74 - 94) bpm
   BP: 111/57(71) {111/57(71) - 120/61(76)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 6 (1 - 11)mmHg
   Total In:
                                                                  1,623 mL
                                                                    416 mL
   PO:
   TF:
                                                                    213 mL
                                                                    180 mL
   IVF:
                                                                  1,100 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  2,462 mL
                                                                    410 mL
   Urine:
                                                                  2,462 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -839 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (350 - 380) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 24.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/48/77.[**Numeric Identifier 253**]/31/6
   Ve: 9.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   8.7 g/dL
   109 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   51 mg/dL
   102 mEq/L
   139 mEq/L
   26.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2132-3-26**]  06:22 PM
                             [**2132-3-26**]  09:21 PM
                             [**2132-3-26**]  09:28 PM
                             [**2132-3-27**]  02:24 AM
                             [**2132-3-27**]  02:37 AM
                             [**2132-3-27**]  05:48 AM
                             [**2132-3-27**]  03:39 PM
                             [**2132-3-27**]  05:07 PM
                             [**2132-3-27**]  06:30 PM
                             [**2132-3-28**]  05:34 AM
   WBC
   15.2
   13.5
   Hct
   26.0
   26.5
   Plt
   243
   206
   Cr
   1.3
   1.3
   TropT
   0.02
   0.02
   TCO2
   33
   30
   36
   32
   33
   34
   34
   Glucose
   146
   109
   Other labs: PT / PTT / INR:13.9/75.2/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:28/37, Alk Phos / T Bili:74/0.3,
   Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:406 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**2132-3-26**] 12:44 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2132-3-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
      RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING.
   IGE, Histo, Strongiloides, Tuleremia: Pending
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned.
   - weaning vent but maintain SaO2 >93%
   - frequent ABGs
   - goal I/O even today
   - continue lower-dose steroids: decrease to 10mg IV solumedrol Q8hrs,
   slow taper to avoid adrenal insufficiency with goal to equivalent 30 mg
   prednisone X 1 (=24 solumedrol)  month
   - cont Vanc / Gent empiric Abx
   - f/u fungal Cx and infectious data
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative.
   - histoplasma, tularemia pending
   - cont lower-dose steroids
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - heparin gtt
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - obtain smear, hapto, LDH
   - touch base with heme
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - wean vasopressors, keep MAP >65
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # ARF: non-oliguric renal failure with low sodium, Cr max 1.7 was down
   to 1.1 but now back up to 1.7, may be pre-renal with hypotension vs
   ATN. Gent levels appropriate. No muddy brown casts --> not ATN.
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   - dose gent by level if <2 today will give early and change to q day
   dosing
   - follow gent troughs
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - monitor
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2132-03-28 07:40:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   BAL otherwise unremarkable
   24 Hour Events:
   Lasix last night 20mg
   Increased TV on vent
   Medium BM yesterday.
 ARTERIAL LINE
Fell out.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Day #5 Vancomycin - [**2132-3-27**] 08:00 AM
   Day #5 Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Infusions:
   Heparin Sodium - 250 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-27**] 08:00 AM
   Other medications:
   Lipitor
   asa
   Colace
   RISS
   Atrovent
   PPI
   Ca
   Ducolax
   Bactrim 1 po qday
   Methypred 20 Q8
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-28**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 89 (74 - 94) bpm
   BP: 111/57(71) {111/57(71) - 120/61(76)} mmHg
   RR: 18 (12 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 6 (1 - 11)mmHg
   Total In:
                                                                  1,623 mL
                                                                    429 mL
   PO:
   TF:
                                                                    213 mL
                                                                    180 mL
   IVF:
                                                                  1,100 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  2,462 mL
                                                                    410 mL
   Urine:
                                                                  2,462 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -839 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (350 - 380) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   Compliance: 24.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/48/77.[**Numeric Identifier 253**]/31/6 (yesterday 6pm)
   Ve: 9.1 L/min
   PaO2 / FiO2: 130
   Physical Examination
   Gen: Sedated
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated   vesicular BS bil anteriorly with bilateral bronchial
   BS bilaterally.
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema symetric
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology: Chest pending
   8.7 g/dL
   206 K/uL
   109 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.7 mEq/L
   51 mg/dL
   102 mEq/L
   139 mEq/L
   26.5 %
   13.5 K/uL
         [image002.jpg]
                             [**2132-3-26**]  06:22 PM
                             [**2132-3-26**]  09:21 PM
                             [**2132-3-26**]  09:28 PM
                             [**2132-3-27**]  02:24 AM
                             [**2132-3-27**]  02:37 AM
                             [**2132-3-27**]  05:48 AM
                             [**2132-3-27**]  03:39 PM
                             [**2132-3-27**]  05:07 PM
                             [**2132-3-27**]  06:30 PM
                             [**2132-3-28**]  05:34 AM
   WBC
   15.2
   13.5
   Hct
   26.0
   26.5
   Plt
   243
   206
   Cr
   1.3
   1.3
   TropT
   0.02
   0.02
   TCO2
   33
   30
   36
   32
   33
   34
   34
   Glucose
   146
   109
   Other labs: PT / PTT / INR:13.9/75.2/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:28/37, Alk Phos / T Bili:74/0.3,
   Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:406 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.4 mg/dL
   Galatomonan negative, Glucan    Gent 2.6 this morning.  Peak pending
   Histo-P,  Tuleremia P, Stongi P, IGE pending
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   stable today.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Suspect he may have Acute eosinophilic PNA with ARDS
   and volume overload and is now responding to tx.
   - Will continue  20mg TID
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] Continue Vanc/Gent day #5 (x-rays improved will continue) will
   check Gent Peak.
   - SSI while on steroids
   - Appreciate Dr. [**Last Name (STitle) 6015**] input
    - Histo /tularemia studies pending
   -Continue ARDS net ventilation and titrate FIO2 as tolerated will then
   decrease PEEP.  No changes at this time.
   -Will titrate FiO2 today
   -Will consider repeat CT scan next  week to assess for clinical change
   to help with prognosis.
   #Left Upper extremity DVT
   -Continue heprin drip
   #GI-Mild ileus/ residuals on tube feeds
   -Contiue stimulant.  Senna/bisacodyl
   #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.  Also recent warm agglutins.
   -  hemolysis labs wnl.
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # ARF: -Improved.
   -No signs of  ATN
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Will consider restarting low dose BB
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   Appears mildly volume overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - Holding BB
   - hold ACEI for recent renal failure and contrast
   - Goal negative 500-1L as BP tolerates
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-stable
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family.  He remains
   critically ill will set up meeting with family to discuss goals of
   care.
   ICU Care
   Nutrition: Tube feeds per goal no bolus.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Prophylaxis:
   DVT: heprin drip
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight. Events noted
 spiked 101 degree fever today. On
   heparin IV for LUE DVT.
   Exam MAPs 71-90, HR 70-94, sat 93-100%, pO2 75, vent dependent, a/c
   380x22, 18, 50%. Lungs sounds clear ant/lat, 2+ edema UE>LE. Overall
   fluid balance -839 ml. Leukocytosis improving to 13.5, creatinine at
   1.3. Beta glucan negative.
   CXR reviewed, improved a/s disease on right.
   TTE [**3-24**] showed severe LV dysfunction (EF 25-30%) and moderate
   pulmonary hypertension (TR grad 44).
   Several micro studies are pending including Asperg galactomannan,
   tularemia Ab, strongyloides. Remains on Vanc and Gent, Solumedrol.
   Getting tube feeds.
   IMP
   Progressive acute respiratory failure of unclear etiology, concerning
   for: eosinophilic syndrome exacerbated by CHF in the setting of shock
   and SVT, less likely malignancy with lymphangitic spread however sputum
   cytology shows atypical squamous cells and abundant neutrophils. C/w
   Solumedrol. Will try increasing tidal volume to 400 ml. Will consider
   bronch for repeat cultures and cytology.
   Upper extremity DVT
 on IV heparin
   Other issues include recurrent SVT, improving acute renal failure
   likely ATN, severe ischemic cardiomyopathy.
   Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note. Patient is critically ill.
   Total time 40 minutes.

2132-03-29 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2132-3-28**] 12:53 PM
 URINE CULTURE - At [**2132-3-28**] 12:53 PM
 ARTERIAL LINE - START [**2132-3-28**] 07:00 PM
   - initially did well during the day and weaned fio2 to 50% and PEEP 10
   - Spiked a temp to 101, new infiltrate in LLL
   - became hypotensive and restarted on levophed
   - switched from gent to Vanc/zosyn after d/w ID for better lung
   coverage
   - U/A positive
   - had bronch with pink tinged sputum sent for cytology, cx, fungal
   - overnight oxygenation worse and had to increase FiO2 to 70%
   - a-line replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Vancomycin - [**2132-3-28**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-29**] 06:00 AM
   Infusions:
   Heparin Sodium - 460 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2132-3-29**] 05:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-29**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 67 (65 - 100) bpm
   BP: 116/48(69) {106/46(66) - 172/69(103)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: A Paced
   Height: 64 Inch
    CVP: 6 (2 - 10)mmHg
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                  1,886 mL
                                                                    722 mL
   PO:
   TF:
                                                                    315 mL
                                                                    289 mL
   IVF:
                                                                  1,422 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    285 mL
   Urine:
                                                                  1,045 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    841 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   SpO2: 94%
   ABG: 7.40/48/92.[**Numeric Identifier 491**]/30/3
   Ve: 8.1 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: intubated sedated, not following commands this morning
   Cor: RRR, no murmurs
   Pulm: coarse breath sounds throughout
   Abd: soft, NT, ND
   Exr: 2+ edema; LUE still swollen
   Labs / Radiology
   167 K/uL
   7.8 g/dL
   127 mg/dL
   1.4 mg/dL
   30 mEq/L
   5.1 mEq/L
   51 mg/dL
   103 mEq/L
   137 mEq/L
   23.4 %
   10.8 K/uL
         [image002.jpg]
                             [**2132-3-27**]  05:48 AM
                             [**2132-3-27**]  03:39 PM
                             [**2132-3-27**]  05:07 PM
                             [**2132-3-27**]  06:30 PM
                             [**2132-3-28**]  05:34 AM
                             [**2132-3-28**]  11:47 AM
                             [**2132-3-28**]  08:13 PM
                             [**2132-3-28**]  10:42 PM
                             [**2132-3-29**]  01:48 AM
                             [**2132-3-29**]  04:15 AM
   WBC
   13.5
   10.8
   Hct
   26.5
   23.4
   Plt
   206
   167
   Cr
   1.3
   1.4
   TCO2
   32
   33
   34
   34
   34
   33
   33
   31
   Glucose
   109
   127
   Other labs: PT / PTT / INR:14.1/50.8/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned. Now with VAP as well,
   bronched again [**3-28**].
   - weaning vent but maintain SaO2 >93%
   - frequent ABGs
   - goal I/O even today
   - continue lower-dose steroids: 20mg IV solumedrol Q8hrs X 5 days, slow
   taper to avoid adrenal insufficiency with goal to equivalent 30 mg
   prednisone X 1 (=24 solumedrol)  month
   - cont empiric Abx: Vanc / Zosyn
   - f/u fungal Cx and infectious data
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative.
   - histoplasma, tularemia pending
   - cont lower-dose steroids
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # VAP pneumonia - s/p bronch, infectious studies pending. No
   microorganisms on gram stain.
   - f/u infectious studies
   - cont empiric Vanc / Zosyn
   # UTI
   - f/u infectious studies
   - cont empiric Vanc / Zosyn
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - heparin gtt
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - obtain smear, hapto, LDH
   - touch base with heme
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - wean vasopressors, keep MAP >65
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # ARF: non-oliguric renal failure with low sodium, Cr max 1.7 was down
   to 1.1 but now back up to 1.7, may be pre-renal with hypotension vs
   ATN. Gent levels appropriate. No muddy brown casts --> not ATN.
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   - dose gent by level if <2 today will give early and change to q day
   dosing
   - follow gent troughs
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - monitor
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-29**] 04:16 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevated
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2132-03-29 10:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   New fever and hypotension yesterday.  Underwent bronch with some
   purulence in trachea.  Lavage of LLL revealed pink return.  Overnight,
   more hypoxemic, FiO2 increased to 0.7.
   A-line replaced yesterday
   Overnight, levophed weaned off.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Vancomycin - [**2132-3-28**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-29**] 06:00 AM
   Infusions:
   Heparin Sodium - 460 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2132-3-29**] 05:18 AM
   Other medications:
   ASA, colace, lipitor, peridex, protonix, solumedrol 20mg Q8hr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2132-3-29**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 66 (65 - 82) bpm
   BP: 118/48(68) {106/46(66) - 172/69(103)} mmHg
   RR: 14 (11 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 7 (2 - 10)mmHg
   Mixed Venous O2% Sat: 94 - 94
                                Total In:
                                                                  1,886 mL
                                                                    963 mL
   PO:
                                TF:
                                                                    315 mL
                                                                    392 mL
   IVF:
                                                                  1,422 mL
                                                                    511 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    455 mL
   Urine:
                                                                  1,045 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    841 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 380 (380 - 380) mL
   RR (Set): 18
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   Compliance: 27.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/48/92.[**Numeric Identifier 491**]/30/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), ventilated, coarse bs
   B/L.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   167 K/uL
   127 mg/dL
   1.4 mg/dL
   30 mEq/L
   5.1 mEq/L
   51 mg/dL
   103 mEq/L
   137 mEq/L
   23.4 %
   10.8 K/uL
        [image002.jpg]
                             [**2132-3-27**]  05:48 AM
                             [**2132-3-27**]  03:39 PM
                             [**2132-3-27**]  05:07 PM
                             [**2132-3-27**]  06:30 PM
                             [**2132-3-28**]  05:34 AM
                             [**2132-3-28**]  11:47 AM
                             [**2132-3-28**]  08:13 PM
                             [**2132-3-28**]  10:42 PM
                             [**2132-3-29**]  01:48 AM
                             [**2132-3-29**]  04:15 AM
   WBC
   13.5
   10.8
   Hct
   26.5
   23.4
   Plt
   206
   167
   Cr
   1.3
   1.4
   TCO2
   32
   33
   34
   34
   34
   33
   33
   31
   Glucose
   109
   127
   Other labs: PT / PTT / INR:14.1/50.8/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Imaging: No new CXR this AM
   Microbiology: BAL GS:  2+ polys, No orgs, Cx Pending
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   improved today.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Suspect he may have Acute eosinophilic PNA with ARDS
   and volume overload and is now responding to tx.
   - Continues on solumedrol
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   -Will hold on diuresis given recent hypotension
   - Histo /tularemia studies pending
   -Continue ARDS net ventilation and titrate FIO2 as tolerated will then
   decrease PEEP.  No changes at this time.
   -Will titrate FiO2 today
   -Will consider repeat CT scan next  week to assess for clinical change
   to help with prognosis.
   #?VAP:  New infiltrate yesterday at L base in setting of fever and new
   pressor requirement.  BP, fever curve and WBC all improved today.
     -Continue Vanc/zosyn.  Will hold off on double GNR coverage given
   improvement
     -f/u BAL results.
   #Left Upper extremity DVT
   -Continue heparin drip, will transition to coumadin soon.
    #GI-Mild ileus/ residuals on tube feeds
   -Continue stimulant.  Senna/bisacodyl
    #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.  Also recent warm agglutins.
   -  hemolysis labs wnl.
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
   # ARF: -Improved.
   -No signs of  ATN
    # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Will consider restarting low dose BB
   - hold ACEI for recent renal failure and contrast
    #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy
   - Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   - monitor volume status, try not to let him get too positive but will
   hold off on diuresis today
   - Holding BB
   - hold ACEI for recent renal failure and contrast
    # h/o NSVT, SSS, s/p PM/ICD EP aware
    # h/o prostate cancer: receiving hormonal therapy q3 months but
   patient reports his treatment was skipped this month due to his
   symptoms.  He is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -prostate CA adeno CA
    #Electrolytes-stable
    # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
    # Code: No CPR for Hypoxemic arrest discussed with family.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-29**] 04:16 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-28**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-03-30 07:31:00 Physician Resident Progress Note
Chief Complaint:  n/a
   24 Hour Events:
   - 4pm ABG: 7.36/60/82 --> incr rate 24, decr TV
   - repeat ABG: 7.38/54/134 --> tried to decrease FiO2, but [**Last Name (LF) 6124**], [**First Name3 (LF) **]
   still on 70%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Vancomycin - [**2132-3-28**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-30**] 06:09 AM
   Infusions:
   Heparin Sodium - 660 units/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2132-3-29**] 06:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-30**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 81 (66 - 85) bpm
   BP: 112/44(65) {106/44(64) - 125/55(77)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 2 (2 - 14)mmHg
   Total In:
                                                                  2,108 mL
                                                                    801 mL
   PO:
   TF:
                                                                  1,020 mL
                                                                    335 mL
   IVF:
                                                                    998 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    470 mL
   Urine:
                                                                    825 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 380) mL
   RR (Set): 24
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/54/134/29/5
   Ve: 8.7 L/min
   PaO2 / FiO2: 191
   Physical Examination
   Gen: intubated sedated, not following commands this morning
   Cor: RRR, no murmurs
   Pulm: coarse breath sounds throughout
   Abd: soft, NT, ND
   Exr: 2+ edema; LUE still swollen
   Labs / Radiology
   CXR: still with diffuse right sided infiltrate and LLL infiltrate (more
   apparent today)
   BAL: 1+  PMN, no organisms, AFB neg, PCP neg, viral cx pending, fungal
   cx pending
   156 K/uL
   7.6 g/dL
   142 mg/dL
   1.6 mg/dL
   29 mEq/L
   5.3 mEq/L
   54 mg/dL
   104 mEq/L
   137 mEq/L
   23.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2132-3-28**]  11:47 AM
                             [**2132-3-28**]  08:13 PM
                             [**2132-3-28**]  10:42 PM
                             [**2132-3-29**]  01:48 AM
                             [**2132-3-29**]  04:15 AM
                             [**2132-3-29**]  04:46 PM
                             [**2132-3-29**]  10:02 PM
                             [**2132-3-29**]  11:43 PM
                             [**2132-3-30**]  03:58 AM
                             [**2132-3-30**]  04:19 AM
   WBC
   10.8
   9.9
   Hct
   23.4
   23.5
   Plt
   167
   156
   Cr
   1.4
   1.6
   TCO2
   34
   33
   33
   31
   35
   34
   32
   33
   Glucose
   127
   142
   Other labs: PT / PTT / INR:13.7/72.2/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned. Now with VAP as well,
   bronched again [**3-28**].
   - weaning vent but maintain SaO2 >93%
   - frequent ABGs
   - Lasix 10mg IV x1 bolus now
   - goal I/O negative 500cc
 1L today
   - continue lower-dose steroids: 20mg IV solumedrol Q8hrs X 5 days, slow
   taper to avoid adrenal insufficiency with goal to equivalent 30 mg
   prednisone X 1 (=24 solumedrol)  month
   - cont empiric Abx: Vanc / Zosyn
   - f/u fungal Cx and infectious data
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative. Histo negative.
   - tularemia pending, not actively treating for it anymore
   - cont lower-dose steroids
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # VAP pneumonia - s/p bronch, infectious studies pending. No
   microorganisms on gram stain.
   - f/u infectious studies
   - cont empiric Vanc / Zosyn
   # UTI:
   - f/u infectious studies
   - cont empiric Vanc / Zosyn
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - continue heparin gtt
   - will need to transition to coumadin once stable and no need for
   further procedures
   # anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - f/u smear, but hapto/LDH not suggestive of hemolysis
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # ARF:Peaked at 1.7, but continues to trend down. No muddy brown casts
   --> not ATN.
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - Kayexelate x1
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-30**] 02:26 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-28**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2132-03-30 10:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   FiO2 attempted to be weaned. When decreased from 0.7 to 0.6-->desat'd.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2132-3-27**] 10:15 AM
   Bactrim (SMX/TMP) - [**2132-3-27**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-30**] 06:09 AM
   Vancomycin - [**2132-3-30**] 08:09 AM
   Infusions:
   Heparin Sodium - 660 units/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2132-3-29**] 06:04 PM
   Other medications:
   [**Last Name (LF) 3968**], [**First Name3 (LF) 119**], colace, RISS, calcium carbonate, Bactrim, solumedrol 20mg
   Q8hr, peridex, protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-30**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 84 (66 - 85) bpm
   BP: 111/51(70) {106/44(64) - 125/55(77)} mmHg
   RR: 20 (12 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 10 (2 - 14)mmHg
   Total In:
                                                                  2,108 mL
                                                                  1,173 mL
   PO:
   TF:
                                                                  1,020 mL
                                                                    431 mL
   IVF:
                                                                    998 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                    825 mL
                                                                    555 mL
   Urine:
                                                                    825 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,283 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 380) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/54/134/29/5
   Ve: 9.6 L/min
   PaO2 / FiO2: 191
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic) pericardial rub heard
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Right>Left)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   156 K/uL
   142 mg/dL
   1.6 mg/dL
   29 mEq/L
   5.3 mEq/L
   54 mg/dL
   104 mEq/L
   137 mEq/L
   23.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2132-3-28**]  11:47 AM
                             [**2132-3-28**]  08:13 PM
                             [**2132-3-28**]  10:42 PM
                             [**2132-3-29**]  01:48 AM
                             [**2132-3-29**]  04:15 AM
                             [**2132-3-29**]  04:46 PM
                             [**2132-3-29**]  10:02 PM
                             [**2132-3-29**]  11:43 PM
                             [**2132-3-30**]  03:58 AM
                             [**2132-3-30**]  04:19 AM
   WBC
   10.8
   9.9
   Hct
   23.4
   23.5
   Plt
   167
   156
   Cr
   1.4
   1.6
   TCO2
   34
   33
   33
   31
   35
   34
   32
   33
   Glucose
   127
   142
   Other labs: PT / PTT / INR:13.7/72.2/1.2, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6
   %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L,
   Ca++:7.0 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:  Persistent R sided infiltrate.  New L sided peripheral
   and basilar infiltrate.
   Microbiology: BAL:  No growth to date.
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   improved today.
    #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg. Suspect he may have Acute eosinophilic PNA vs steroid
   unresponsive BOOP with ARDS  and volume overload and is now responding
   to tx.
   - Continues on solumedrol
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   -Will try to diurese today as hemodynamics allow.  Goal -1 liter.
   - Histo /tularemia studies pending
   -Continue ARDS net ventilation.
   -Will titrate FiO2 down today.  Some suspicion that sats and PaO2 may
   not correlate so will titrate based on PaO2.
   -Will consider repeat CT scan next  week to assess for clinical change
   to help with prognosis.
    #?VAP:  New infiltrate at L base in setting of fever and new pressor
   requirement.  BP, fever curve and WBC all improved today. BAL
   non-diagnostic.  Despite peripheral appearance, this is unlikely to be
   PE/infarct as he has been on heparin for DVT.
   -Continue Vanc/zosyn.  Will hold off on double GNR coverage given
   improvement
    #Left Upper extremity DVT
   -Continue heparin drip, will transition to coumadin soon.
    #GI-Mild ileus/ residuals on tube feeds
   -Continue stimulant.  Senna/bisacodyl
    #anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy pending.  Also recent warm agglutins.
   -  hemolysis labs wnl.
   - bone marrow biopsy results unrevealing
   - appreciate hematology recs.
    # ARF: GFR relatively stable.
   -No signs of  ATN
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue [**Doctor Last Name 119**]
   -Will consider restarting low dose BB if BP is stable, but will hold
   off for now to save BP room for diuresis.
   - hold ACEI for recent renal failure and contrast
    #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy
   - Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   - Diurese as above
   - Holding BB as above.
   - hold ACEI for recent renal failure and contrast
    # h/o prostate cancer: receiving hormonal therapy q3 months but
   patient reports his treatment was skipped this month due to his
   symptoms.  He is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -prostate CA adeno CA
    # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
    # Code: No CPR for Hypoxemic arrest discussed with family.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-30**] 02:26 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-28**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2132-03-31 07:22:00 Physician Resident Progress Note
Chief Complaint: hypoxic resp failure
   24 Hour Events:
 PAN CULTURE - At [**2132-3-30**] 09:01 PM
 FEVER - 102.7
F - [**2132-3-30**] 08:00 PM
   - Febrile, pan-cultured for high fever
   - Hypertensive, started BB, blood pressure came down too far, so
   stopped BB
   - Was not able to diurese [**12-31**] hypotension after getting BB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-3-30**] 08:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-31**] 05:11 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-3-30**] 10:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-3-31**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.7
C (101.6
   HR: 88 (75 - 106) bpm
   BP: 94/39(56) {94/39(56) - 164/66(90)} mmHg
   RR: 27 (25 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  2,440 mL
                                                                    767 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    326 mL
   IVF:
                                                                  1,270 mL
                                                                    441 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    375 mL
   Urine:
                                                                  2,175 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    265 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 70%
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 90%
   ABG: 7.38/52/91.[**Numeric Identifier 253**]/28/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 131
   Physical Examination
   Gen: intubated sedated, not following commands this morning
   Cor: RRR, no murmurs
   Pulm: coarse breath sounds throughout
   Abd: soft, NT, ND
   Exr: 2+ edema; LUE still swollen
   Labs / Radiology
   163 K/uL
   8.3 g/dL
   123 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   55 mg/dL
   102 mEq/L
   138 mEq/L
   25.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2132-3-30**]  03:58 AM
                             [**2132-3-30**]  04:19 AM
                             [**2132-3-30**]  10:05 AM
                             [**2132-3-30**]  11:07 AM
                             [**2132-3-30**]  11:53 AM
                             [**2132-3-30**]  02:37 PM
                             [**2132-3-30**]  07:44 PM
                             [**2132-3-31**]  12:25 AM
                             [**2132-3-31**]  01:33 AM
                             [**2132-3-31**]  04:24 AM
   WBC
   9.9
   11.5
   Hct
   23.5
   25.5
   Plt
   156
   163
   Cr
   1.6
   1.8
   2.0
   TCO2
   33
   31
   31
   30
   31
   32
   32
   Glucose
   142
   112
   123
   Other labs: PT / PTT / INR:14.6/60.6/1.3, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:97.0 %, Lymph:2.3 %, Mono:0.6
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL, LDH:406 IU/L,
   Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
[**2132-3-30**] 9:02 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2132-3-31**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   YEAST(S).
   [**3-28**], [**3-30**]: Blood Cx: NGTD
   Assessment and Plan
 HYPERTENSION, BENIGN
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FACIAL / ORBITAL FRACTURE (BLOWOUT, LEFORT)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: Now intubated and sedated.  Patient has had a
   subacute course of hypoxia with some worsening with PoA2 58 despite on
   non-rebreather. Initially, it was felt there was a component of pulm
   edema and he was aggressively diuresed. His hypoxia worsened and he was
   intubated. CT appears to have pulmonary edema, as compared to prior
   that showed more consolidation. TTE unchanged from prior. After meeting
   w/ family and CT Surgery, no VATS planned. Now with VAP as well,
   bronched again [**3-28**] w/o infectious results. New Sputum gram stain with
   GNRs, GPRs, yeast. Galactomannan, Tularemia, Strongyloides, and IgE
   still pending.
   - continue to wean vent tolerating PaO2 70-80 or SaO2 >93%
   - goal I/O even today
   - increase steroids to pulse-dose as below
   - cont empiric Abx: Vanc / Zosyn, consider changing as below
   - f/u fungal Cx and infectious data
   # VAP pneumonia - s/p bronch, infectious studies pending. No
   microorganisms on gram stain. New fever yesterday, with new Sputum gram
   stain with GNRs, GPRs, yeast. Galactomannan, Tularemia, Strongyloides,
   and IgE still pending.
   - f/u Cx data
   - f/u infectious studies
   - cont empiric Vanc (day 8) / Zosyn (day 4)
 renally dose given incr
   Creatinine
   # Fever: Sources include Urine, lung, blood, sinuses. Most likely VAP,
   although has been on broad coverage for past few days. Diff on CBC
   today w/ 12% Eos. New Sputum gram stain with GNRs, GPRs, yeast.
   Alternatives: CVL, sinuses, GB, stool, effusion.
   - cont current empiric Abx: Vanc (day 8) / Zosyn (day 4)
 renally dose
   given incr Creatinine; consider change to Meropenem
   - change CVL today, send tip for gram stain / culture
   - repeat chest CT to evaluate progression of disease
   - check head/sinus CT to r/u sinusitis
   - check portable KUB
   - check LFTs, stool cultures, C.diff, O&P
   - continue current low-dose steroids for now, then increase to
   pulse-dose steroids (250mg Q6hrs x3 days)
   - consider adding quinolone for double pseudomonas coverage
   - consider changing Zosyn to Meropenem (if thought is potentially not
   covering ESBL)
   - repeat ANCA today
   - family meeting
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative. Histo negative.
   - tularemia pending, not actively treating for it anymore
   - CT chest as above
   - increase steroids to pulse-dose as above
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # ARF: Has had waxing and [**Doctor Last Name 226**] course. Initial increase in creatinine
   felt to be prerenal as urine with no muddy brown casts. However, now,
   he has a new worsening of creatinine.
   - check urine lytes, spin urine, send urine Eos
   - check portable KUB
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - continue heparin gtt
   - will need to transition to coumadin once stable and no need for
   further procedures
   # Anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - f/u smear, but hapto/LDH not suggestive of hemolysis
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - keep I/O even
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia: did receive kayexelate although need to be careful with
   kayexelate in the vassopression, EKG w/o peaked T
   - Kayexelate x1
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-3-31**] 12:38 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-28**] 07:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2132-03-31 10:34:00 Physician Attending Progress Note
Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   24 Hour Events:
   Weekend events continued fevers new x-ray findings gent stopped zosyn
   started.
   No major changes over weekend
   Persistantly febrile pan cultured.
   HTN in the evening, dropped BP to beta blocker.
 PAN CULTURE - At [**2132-3-30**] 09:01 PM
 FEVER - 102.7
F - [**2132-3-30**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Day # 4Piperacillin/Tazobactam (Zosyn) - [**2132-3-31**] 05:11 AM
   Day #8 Vancomycin - [**2132-3-31**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 175 mcg/hour
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-3-31**] 08:00 AM
   Other medications:
   Lipitor
   asa
   Colace
   RISS
   Atrovent
   PPI
   Ca
   Ducolax
   Bactrim 1 po qday
   Methypred 20 Q8
   Changes to medical and family history:
   no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2132-3-31**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.3
C (101
   HR: 84 (75 - 106) bpm
   BP: 104/46(64) {94/39(56) - 164/66(90)} mmHg
   RR: 26 (25 - 31) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 11 (5 - 15)mmHg
   Total In:
                                                                  2,441 mL
                                                                  1,261 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    360 mL
   IVF:
                                                                  1,271 mL
                                                                    841 mL
   Blood products:
   Total out:
                                                                  2,175 mL
                                                                    518 mL
   Urine:
                                                                  2,175 mL
                                                                    518 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    266 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 70%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 91%
   ABG: 7.38/52/91.[**Numeric Identifier 253**]/28/3
   Ve: 11.4 L/min
   PaO2 / FiO2: 131
   Physical Examination
   Gen: Sedated
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated bronhial BS bilaterally
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema symetric
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology: Chest port increased consolidation in left base right
   unchanged all lines and tubes in place,
   8.3 g/dL
   163 K/uL
   123 mg/dL
   2.0 mg/dL
   28 mEq/L
   4.5 mEq/L
   55 mg/dL
   102 mEq/L
   138 mEq/L
   25.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2132-3-30**]  03:58 AM
                             [**2132-3-30**]  04:19 AM
                             [**2132-3-30**]  10:05 AM
                             [**2132-3-30**]  11:07 AM
                             [**2132-3-30**]  11:53 AM
                             [**2132-3-30**]  02:37 PM
                             [**2132-3-30**]  07:44 PM
                             [**2132-3-31**]  12:25 AM
                             [**2132-3-31**]  01:33 AM
                             [**2132-3-31**]  04:24 AM
   WBC
   9.9
   11.5
   Hct
   23.5
   25.5
   Plt
   156
   163
   Cr
   1.6
   1.8
   2.0
   TCO2
   33
   31
   31
   30
   31
   32
   32
   Glucose
   142
   112
   123
   Other labs: PT / PTT / INR:14.6/69.3/1.3, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:1.0 %, Eos:12.0 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:406 IU/L, Ca++:6.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.9 mg/dL
   Galatomonan and Glucan    repeat pending
   Histo-P,  Tuleremia P, Stongi P, IGE pending
   Sputum-1+ Gram neg rods, Gram + rods and yeast
   Bal Friday-negative to date.
   Assessment and Plan
    Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   stable today.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg.
   - Will Pulse today
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name9 (PRE) 5997**] [**Name Initial (PRE) **]
c  vanc and zosyn once all cx final negative.
   -Will d
c central line and change.
   - Appreciate Dr. [**Last Name (STitle) 6015**] input
   -Continue ARDS net ventilation and titrate FIO2 as tolerated will then
   decrease PEEP.  No changes at this time.
   -Will titrate FiO2 today
   -Will rescan CT scan chest and sinus today
   #Fevers-unclear etiology on broad spectrum antibiotics differential
   includes inflammatory with elevated eos, infectious, malignacy, vrs
   drug reaction
   -Will change line
   -Will continue current abx until cx final.
   -Will give pulse dose steroids given clinical deterioration with taper
   and negative bronch
   -Will recheck ANCA
   #Left Upper extremity DVT
   -Continue heprin drip
   #GI-Mild ileus/ residuals on tube feeds
   -Contiue stimulant.  Senna/bisacodyl
   #anemia:stable
   # ARF: -worsened .
   -Will spin urine and review with renal service
   -question pulmonary renal syndrome
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Will consider restarting low dose BB
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise unchanged.
   Appears mildly volume overloaded on arrival to the ICU. Goal negative.
   - monitor volume status
   - Holding BB
   - hold ACEI for recent renal failure and contrast
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-stable
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family.  He remains
   critically ill will set up meeting with family to discuss goals of care
   tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: Will change line
   Multi Lumen - [**2132-3-23**] 12:45 PM
   Arterial Line - [**2132-3-31**] 09:07 AM
   Prophylaxis:
   DVT:  Heprin drip
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   Stable overnight but spiked fever to 102.7, pancultured. Creatinine
   increased now to 2.0 without obvious cause, peripheral eos at 12%.
   Urine was spun and shows granular casts. FiO2 and peep increased over
   weekend, CXR shows worsening infiltrates. Exam unchanged. Clear breath
   sounds ant/lat, UE edema, abd soft, BS present.
   Overall fluid balance ~ even. Leukocytosis improving to 11.5,
   creatinine now at 2.0. BAL gram stain shows no organisms. Cultures
   pending. No other new micro data.
   TTE [**3-24**] showed severe LV dysfunction (EF 25-30%) and moderate
   pulmonary hypertension (TR grad 44).
   Several micro studies are pending including Asperg galactomannan,
   tularemia Ab, strongyloides. Remains on Vanc and Gent, Solumedrol.
   Getting tube feeds.
   IMP/PLAN
   Progressive acute respiratory failure of unclear etiology, concerning
   for: eosinophilic syndrome exacerbated by CHF in the setting of shock
   and SVT, AIP, less likely malignancy with lymphangitic spread however
   sputum cytology shows atypical squamous cells and abundant neutrophils.
   There is now peripheral eosinophilia and fever. Agree with resiting the
   CVL and giving pulsed-dose Solumedrol. Continue IV heparin for upper
   extremity DVT.
   Other issues include recurrent SVT, improving acute renal failure
   likely ATN, severe ischemic cardiomyopathy, hx of prostate ca. We will
   plan on a family meeting for tomorrow.
   Rest of the plan per Dr [**Last Name (STitle) 5967**]
s note. Patient is critically ill.
   Total time 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 366**] [**Last Name (NamePattern1) 15**], MD
   on:[**2132-3-31**] 18:14 ------

2132-04-02 07:16:00 Physician Resident Progress Note
Chief Complaint:  Hypoxia
   24 Hour Events:
   - given 1L IVF bolus for low UOP
   - family mtg, waiting one more day and then considering withdrawing
   care
   - ABG this AM 7.27/54/56
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-31**] 06:00 PM
   Vancomycin - [**2132-4-1**] 11:33 AM
   Piperacillin - [**2132-4-2**] 12:06 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   250 Fentanyl - [**2132-4-1**] 08:39 AM
   Midazolam (Versed) - [**2132-4-1**] 08:40 AM
   Pantoprazole (Protonix) - [**2132-4-1**] 09:11 AM
   Other medications:
   Lipitor
   ASA
   Colace
   ISS
   Calcium
   Bactrim
   Solumedrol 250 mg IV Q6H
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-2**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 71 (66 - 89) bpm
   BP: 130/53(78) {104/45(64) - 130/60(81)} mmHg
   RR: 32 (18 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
    CVP: 10 (5 - 11)mmHg
   Total In:
                                                                  2,801 mL
                                                                  1,762 mL
   PO:
   TF:
                                                                  1,091 mL
                                                                    325 mL
   IVF:
                                                                  1,621 mL
                                                                  1,438 mL
   Blood products:
   Total out:
                                                                    257 mL
                                                                     63 mL
   Urine:
                                                                    257 mL
                                                                     63 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,544 mL
                                                                  1,699 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 380) mL
   RR (Set): 28
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 93%
   ABG: 7.29/55/73.[**Numeric Identifier 252**]/23/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 104
   Physical Examination
   Gen: intubated sedated, not following commands
   Neck: mild oozing from left IJ site, none from RIJ, JVP elevated to jaw
   Cor: RRR, no murmurs, no friction rub
   Pulm: bronchial breath sounds
   Abd: soft, NT, ND
   Exr: 4+ edema; LUE with worsening swelling, + left radial pulses
   Labs / Radiology
   CXR: [**4-1**]: continued increasing bilateral pulmonary opacification
   CXR [**4-2**]: more opacification on the L base, right heart border improved,
   ETT 2 cm above carina
   161 K/uL
   8.9 g/dL
   180 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.8 mEq/L
   102 mg/dL
   102 mEq/L
   138 mEq/L
   27.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2132-3-31**]  04:24 AM
                             [**2132-3-31**]  06:09 PM
                             [**2132-3-31**]  07:15 PM
                             [**2132-3-31**]  08:24 PM
                             [**2132-3-31**]  08:39 PM
                             [**2132-4-1**]  03:10 AM
                             [**2132-4-1**]  03:26 AM
                             [**2132-4-1**]  09:48 AM
                             [**2132-4-2**]  03:53 AM
                             [**2132-4-2**]  04:04 AM
   WBC
   11.4
   Hct
   22.0
   27.4
   Plt
   161
   Cr
   2.9
   3.8
   TCO2
   32
   35
   32
   30
   31
   27
   28
   Glucose
   186
   180
   Other labs: PT / PTT / INR:13.4/65.5/1.1, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:95.1 %, Band:0.0 %, Lymph:4.0
   %, Mono:0.5 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:406 IU/L, Ca++:5.9 mg/dL, Mg++:2.7 mg/dL, PO4:6.1 mg/dL
   Micro:
   Sputum: spare oropharyngeal flora
   Cath tip: no growth
   IgE: pending
   Tuleremia: pending
   Aspergillus: pending
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FACIAL / ORBITAL FRACTURE (BLOWOUT, LEFORT)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 ALTERATION IN NUTRITION
 CARDIAC DYSRHYTHMIA OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 PNEUMONIA, OTHER
 HYPOXEMIA
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef20%, prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities on [**Hospital 2667**] transferred to the ICU for hypoxia.
   #Hypoxic Resp Failure: No improvement and worsening O2 requriement.
   Repeat CT chest with worsening  progression of disease. Initially, it
   was felt there was a component of pulm edema and he was aggressively
   diuresed. His hypoxia worsened and he was intubated.. After meeting w/
   family and CT Surgery, no VATS planned. Now with possible VAP, bronched
   again [**3-28**] w/o infectious results. Sputum culture ultimately with sparse
   orpharyngeal flora. Galactomannan, Tularemia, Strongyloides, and IgE
   still pending. Respiratory failure seems to be progressing further with
   worsening in the left lung base
   - continue to attempt weaning vent tolerating PaO2 70-80 or SaO2 >93%
   - goal I/O even today
   - pulse-dose steroids X 3 days as below and start taper on [**4-3**]
   - D/C Vanc/Zosyn
   - diurese with lasix gtt and use pressors as needed
   - f/u fungal Cx and infectious data
   - goals of care: talk to family about turning off AICD
   - for Vent: increase FiO2 for hypoxia
   # ? VAP pneumonia - s/p bronch, infectious studies pending. No
   microorganisms on gram stain from BAL. Sputum culture ultimately with
   sparse orpharyngeal flora. On CT, infiltrate had the appearance of
   progressive underlying process rather than new consolidation.  Fever
   and infiltrate on CXR may not really have been VAP but rather part of
   underlying lung disease.
   - f/u infectious studies
   - D/c Vanc and Zosyn
   # Diffuse right peripheral infiltrates - BAL 30% eosinophils, also with
   peripheral eosinophilia most likely [**12-31**] acute eosinophilic pneumonia.
   PCP negative, respiratory viral antigens neg, BAl neg for bacterial
   pathogens. Legionella neg. Per pulmonary consult, he may have
   "eosinophilic process secondary to malignancy or something like a
   non-steroid responsive BOOP". Beta-glucan and galactomannan negative;
   mycolytic blood culture negative. Histo negative. Chest CT worse.
   - tularemia pending, not actively treating for it anymore
   - cont  pulse-dose as above
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Name Initial (PRE) **] [**Name9 (PRE) **] while on steroids
   # Hypercarbia: Has since resolved in setting of decreasing dead space.
   Need to ventilate more efficiently, may be [**12-31**] ARDSnet ventilation
   - decreasing dead space
   - decreasing RR to prevent over-distension
   # Fever: Last  temp 48 hrs ago, only low grade since then, fever curve
   trending down.  Sources include Urine, lung, blood, sinuses. Most
   likely VAP, although has been on broad coverage for past few days. Diff
   on CBC today w/ 12% Eos. New Sputum gram stain with GNRs, GPRs, yeast.
   Alternatives: CVL, sinuses, GB, stool, effusion. CVL changed, tip
   goulture NGTD.. CT sinsus neg. CT chest with worsening  progression of
   disease. Now afebrile after changing CVL.
   - d/c Vanc/ Zosyn
   - continue pulse-dose steroids (250mg Q6hrs x3 days)
   - attempt to obtain stool cultures, C.diff, O&P- not  having BM
   # ARF: Has had waxing and [**Doctor Last Name 226**] course, now worseing, with muddy brown
   casts suggestive of ATN.
   - holding ACEi for hypotension
   - improve perfusion
   - cont to monitor
   # LUE DVT - increased welling L>R, confirmed on U/S [**3-27**] to involve
   axillary and probably brachial veins.
   - continue heparin gtt
   - will need to transition to coumadin once stable and no need for
   further procedures
   # Anemia: has been present since [**2-4**], slowly trending down but without
   any acute drops and no evidence of bleeding.  He has been followed by
   [**Known firstname **] [**Last Name (NamePattern1) 221**]/[**First Name8 (NamePattern2) 5797**] [**Doctor Last Name 5109**] of hematology.  Work up thus far is negative
   for iron/folate/B12 deficient.  Thought possibly from hormone therapy
   for prostate CA.  No evidence of hemolysis on admission. Bone marrow
   biopsy showed anemia of chronic dz, maybe MDS.  Transfused 1unit [**2-24**]
   with good response. Found to have warm autoimmune ab.
   - daily hct
   - appreciate hematology recs
   - transfuse for HCT <21
   # Warm autoimmune Ab: previously no evidence of hemolysis with elevated
   haptoglobin
   - f/u smear, but hapto/LDH not suggestive of hemolysis
   # Hypotension: Improving. CVP 10.  Initially occurred peri-intubation,
   but now continues to require both levophed and vasopression.  [**Month (only) 8**] have
   been [**12-31**] to [**Month (only) 453**] venous return from diuresis, intubation/PEEP and
   sedation; however, CI is borderline at 2.2, may have component of poor
   cardiac output with reduced EF and 10lbs positive for LOS. TTE shows no
   evidence of cardiogenic etiology.
   - diuresis today using pressors if needed
   # VT/ NSVT, SSS, s/p PM/ICD:  has had runs of VT; likely in setting of
   intubation. Had 2 further episodes of SVT [**3-26**], ECG w/ new T-wave
   changes but CEs negative x3.
   - holding metoprolol for hypotension
   - EP aware, will re-consult if becomes persistent
   - keep K and Mg up
   - cardiac monitoring
   - holding BB and ACEi
   # CAD s/p MI/CABG: no evidence of acute ischmia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change. [**3-27**] ECG w/ new
   T-wave changes but CEs negative x3.
   -continue atorvastatin
   -continue ASA
   - holding BB and ACEi given hyptension
   #Chronic Systoic heart failure - likely [**12-31**] ischemic cardiomyopathy -
   Echo [**2-3**] with EF of 20%, PCWP >18, 1+ MR, 1+TR.  Appears mildly volume
   overloaded on arrival to the ICU. Now neg 450cc. Repeat TTE unchanged.
   - monitor volume status
   # Hyperkalemia:  improved. did receive kayexelate although need to be
   careful with kayexelate in the vassopression, EKG w/o peaked T
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   - f/u on [**Hospital1 17**] records
   - hold tamsulosin
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-4-2**] 03:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-3-28**] 07:00 PM
   Multi Lumen - [**2132-3-31**] 05:14 PM
   Prophylaxis:
   DVT: on hep gtt
   Stress ulcer: PII
   VAP:  yes
   Code status: DNR / DNI
   Disposition: ICU for now

2132-04-02 10:25:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note bellow.
   Chief Complaint: Pulmonary infiltrates with eosinophils
   HPI: Patient seen examined and resident note confirmed.  Hx prostate CA
   admitted with pulmonary infiltrates and BAL sig for eosinophils 30%.
   24 Hour Events: Family meeting will withdraw tonight or tomorrow.
   Worsening oxygenation and ARF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-3-31**] 06:00 PM
   Piperacillin - [**2132-4-2**] 12:06 AM
   Vancomycin - [**2132-4-2**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Other medications:
   Lipitor
   asa
   Colace
   RISS
   Atrovent
   PPI
   Chlorhexidine
   Ca
   Ducolax
   Bactrim 1 po qday
   Day #3 Methypred 250 Q6
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:Intubated
   Flowsheet Data as of  [**2132-4-2**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 73 (67 - 89) bpm
   BP: 127/50(74) {105/45(64) - 134/60(81)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
   CVP: 9 (5 - 11)mmHg
   Total In:
                                                                  2,803 mL
                                                                  2,312 mL
   PO:
   TF:
                                                                  1,091 mL
                                                                    470 mL
   IVF:
                                                                  1,622 mL
                                                                  1,752 mL
   Blood products:
   Total out:
                                                                    257 mL
                                                                    105 mL
   Urine:
                                                                    257 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,546 mL
                                                                  2,207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 28
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 91%
   ABG: 7.27/54/56/23/-2
   Ve: 12.1 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Gen: Sedated
   HEENT: pupils 1mm bilaterally, reactive to light, Intubated
   Neck: supple, no LAD
   CV: RRR, diff to assess murmurs over NRB but no overt murmurs
   Lungs: Intubated bronhial BS bilaterally
   Abd: soft, NT, obese but nont-distended, bs+
   Ext: left upper arm edematous with bruising, lower extremities warm and
   with 1+ edema symetric
   Pulses: radial pulses and DP's 2+ bilaterally
   Labs / Radiology:  ETT 1cm above carina other lines in place, bil
   pulmonary infiltrates with increased left effusion.
   7.6 g/dL
   144 K/uL
   180 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.8 mEq/L
   102 mg/dL
   102 mEq/L
   138 mEq/L
   22.6 %
   11.4 K/uL
        [image002.jpg]
                             [**2132-3-31**]  06:09 PM
                             [**2132-3-31**]  07:15 PM
                             [**2132-3-31**]  08:24 PM
                             [**2132-3-31**]  08:39 PM
                             [**2132-4-1**]  03:10 AM
                             [**2132-4-1**]  03:26 AM
                             [**2132-4-1**]  09:48 AM
                             [**2132-4-2**]  03:53 AM
                             [**2132-4-2**]  04:04 AM
                             [**2132-4-2**]  10:15 AM
   WBC
   11.4
   11.4
   Hct
   22.0
   27.4
   22.6
   Plt
   161
   144
   Cr
   2.9
   3.8
   TCO2
   35
   32
   30
   31
   27
   28
   26
   Glucose
   186
   180
   Other labs: PT / PTT / INR:13.4/65.5/1.1, CK / CKMB /
   Troponin-T:111/3/0.02, ALT / AST:25/43, Alk Phos / T Bili:69/0.3,
   Amylase / Lipase:/27, Differential-Neuts:95.1 %, Band:0.0 %, Lymph:4.0
   %, Mono:0.5 %, Eos:0.3 %, Lactic Acid:0.8 mmol/L, Albumin:2.1 g/dL,
   LDH:406 IU/L, Ca++:5.9 mg/dL, Mg++:2.7 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5795**] is an 85 yo M with CAD s/p CABG/ICD,CHF ef 20% prostate ca
   who presents with dry cough found to have diffuse right sided patchy
   peripheral opacities with profound eosinophilia on BAL.  Clinically
   stable today.
   #Diffuse right and left peripheral infiltrates - BAL 30% eosinophils,
   also with peripheral eosinophilia, PCP negative, respiratory viral
   antigens neg, BAl neg for bacterial/viral and fungal pathogens.
   Legionella neg.
   - Will continue Pulse last day today
   - bactrim for PCP [**Name9 (PRE) 1992**]
   [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] antibiotics
   -Central line changed.
   -Continue ARDS net ventilation.
   -increase FiO2 today
   -Will diuresis with lasix
   #Fevers-unclear etiology on broad spectrum antibiotics differential
   includes inflammatory with elevated eos, infectious, malignacy, vrs
   drug reaction
   -changed line
   -Improved with pulse dose steroids
   -ANCA negative
   -All cx negative
   -Will d
c antibiotics
   #Left Upper extremity DVT
   -Continue heprin drip
   #GI-Mild ileus/ residuals on tube feeds
   -Contiue stimulant.  Senna/bisacodyl
   #anemia:stable
   # ARF: -worsened .
   -ATN per renal
   -Will give lasix drip
   # CAD s/p MI/CABG: no evidence of acute ischemia on arrival to ICU,
   chest pain free.  EKG with LBBB at baseline, no change.
   -continue atorvastatin
   -continue ASA
   -Will consider restarting low dose BB
   - hold ACEI for recent renal failure and contrast
   #Chronic Systolic heart failure - likely [**12-31**] ischemic cardio myopathy -
   Echo EF 20%-30% Est PAP increased from prior otherwise
   unchanged-Hypotensive overnight required levophed.
   -Suspect hypotension related to overdistension
   - monitor volume status
   - Holding BB
   - hold ACEI for recent renal failure and contrast
   # h/o NSVT, SSS, s/p PM/ICD EP aware
   # h/o prostate cancer: receiving hormonal therapy q3 months but patient
   reports his treatment was skipped this month due to his symptoms.  He
   is followed by Dr. [**Last Name (STitle) 5798**].
   -tamsulosin will hold
   -  prostate CA adeno CA
   #Electrolytes-stable
   # Contact: wife [**Name (NI) **], brother would like to be called on Saturday; [**Name (NI) **]
   (son) is HCP [**Telephone/Fax (1) 5848**].
   # Code: No CPR for Hypoxemic arrest discussed with family.  He remains
   critically ill will set up meeting with family to discuss goals of care
   today.  Family planning on withdrawing care on Thursday.  Will also
   discuss with family turning off AICD.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2132-4-2**] 03:30 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-3-28**] 07:00 PM
   Multi Lumen - [**2132-3-31**] 05:14 PM
   Prophylaxis:
   DVT: heprin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU, patient is critically ill
   Total time spent:30 minutes
   Addendum: family has decided together on withdrawal of care. They
   requested his ICD be shut off (rather than magnet) and that he be
   extubated rather than be kept on ventilator. We will ensure comfort at
   all times. Autopsy has been requested.